2137-06-17 08:45:00 Physician Resident Progress Note
Chief Complaint: tachypnea
   24 Hour Events:
   Rapamune started this AM.  Was urgently but not emergently intubated
   for increased work of breathing and for safe placement of dialysis
   line, was hemodialyzed yesterday.
 INVASIVE VENTILATION - START [**2137-6-16**] 02:12 PM
 TUNNELED (HICKMAN) LINE - START [**2137-6-16**] 02:36 PM
 ARTERIAL LINE - START [**2137-6-16**] 04:00 PM
 DIALYSIS CATHETER - START [**2137-6-16**] 06:53 PM
 RECTAL SWAB - At [**2137-6-16**] 11:00 PM
 BLOOD CULTURED - At [**2137-6-17**] 12:54 AM
 FEVER - 102.2
F - [**2137-6-17**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-17**] 08:19 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-17**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 39.7
C (103.4
   HR: 144 (115 - 145) bpm
   BP: 141/53(72) {130/53(72) - 141/92(101)} mmHg
   RR: 27 (16 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                  2,553 mL
                                                                    696 mL
   PO:
   TF:
                                                                    134 mL
   IVF:
                                                                    799 mL
                                                                    562 mL
   Blood products:
                                                                  1,754 mL
   Total out:
                                                                  3,003 mL
                                                                      0 mL
   Urine:
                                                                      3 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -450 mL
                                                                    696 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 628 (628 - 931) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.35/32/91.[**Numeric Identifier 143**]/17/-6
   Ve: 16.2 L/min
   PaO2 / FiO2: 184
   Physical Examination
   Gen: intubated, sedated, anarsarca, jaundiced
   HEENT: NCAT, scleral icterus
   Heart: tachycardic, +S3 or S4 (difficult to differentiate due to
   tachycardia)
   Lungs: Coarse upper airway sounds, mild crackles anteriorly.
   Abd: mildly distended, soft, no grimaces on deep palpation, normoactive
   bowel sounds
   Ext: edematous extremities; spider angiomas on feet
   GU: clear, dark yellow urine in foley, + scrotal edema
   Labs / Radiology
   24 K/uL
   9.5 g/dL
   61 mg/dL
   3.6 mg/dL
   17 mEq/L
   5.2 mEq/L
   72 mg/dL
   101 mEq/L
   139 mEq/L
   26.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2137-6-16**]  03:37 PM
                             [**2137-6-16**]  05:25 PM
                             [**2137-6-16**]  07:10 PM
                             [**2137-6-16**]  10:34 PM
                             [**2137-6-17**]  12:00 AM
                             [**2137-6-17**]  01:15 AM
                             [**2137-6-17**]  05:00 AM
                             [**2137-6-17**]  05:05 AM
   WBC
   9.2
   10.2
   9.3
   Hct
   17.8
   25.7
   26.4
   Plt
   37
   36
   24
   Cr
   4.6
   3.2
   3.6
   TCO2
   12
   14
   18
   19
   18
   Glucose
   91
   66
   103
   61
   Other labs: PT / PTT / INR:21.0/43.5/1.9, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:216 mg/dL,
   Lactic Acid:10.0 mmol/L, LDH:630 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL,
   PO4:6.9 mg/dL
   Assessment and Plan
   # Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD.
   - optimize ventilator settings (decrease PEEP, change pressure support)
   to increase minute ventilation in order to maintain appropriate
   acid/base balance
   - Diurese via hemodialysis
   - continue abx tx with vancomycin and meropenem for PNA
   - daily vancomycin level, therapeutic today
   - optimize immunosuppression per BMT
   - consider IVIG, was treated with course of Rituxan
   - continue antiviral [**Doctor Last Name **]
   - patient may need tissue biopsy if still unclear etiology and fevers
   recur
   - ID on board, appreciate recs
   # New rash
 may be drug rash vs viral vs GVHD of skin
   - minimize new meds
   - derm consult requested, await recs.
   # Acidosis
   - Patient has a pure anion gap acidosis with appropriate respiratory
   compensation. His delta gap/delta bicarb is appropriate and does not
   indicate a secondary metabolic alkalosis or NAG metabolic acidosis.
   - this is all attributable to lactic acidosis which is also likely
   multifactorial due to increased metabolic rate, the acidosis itself
   along with respiratory alkalosis
   - liver disease may also contribute to decreased lactate clearance
   - continue hemodialysis
   - treat underlying cause of liver dysfunction which is PTLD, this is
   being treated with decreased immunosuppression, steroids, IVIG,
   antivirals
   .
   # Acute renal failure
   - baseline 1.1
   - BK viral load is pending, if this comes back elevated likely
   contributing to current state
   - medications may be contributing to worsening renal fxn.
   - confirmed dense ATN based on urine sediment showwing muddy brown
   casts, ? hypotensive episodes
   - continue HD, goal I/O today -1L
   - renally dose all meds
   .
   # Liver failure
   - biospy confirms involvement with lymphoma c/w PTLD
   - hepatically dose meds and avoid toxins
   - transfuse FFP if active signs bleeding
   - treat underlying PTLD
   .
   # Sinus tachycardia
   - patient has been running 110-120s since admission 10 days ago, now in
   130s-140s
   - small effusion on TTE 3 days ago, normal pulsus
   - if becomes hypotensive or difficult to ventilate will plan on repeat
   TTE
   - V/Q scan showed low-moderate probability for PE, but given pt
s high
   pre-test probability for PE, will check LENIs for eval for DVTs. Will
   hold off on CTA for now given renal failure/ no anticoagulation for
   now.
   - tx with vanco/[**Last Name (un) 614**]/caspo for presumed pneumonia and empiric
   treatment, given new rash and fever, may be pre-septic.
   - TSH 2.8 on [**2137-6-3**]
   - check u/a
   - anemia likely contributing, will transfuse 2 units pack red cells now
   and then for hct<21 or if he needs any volume
   - no signs of ischemia on ECG, no chest pain prior to intubation
   .
   # Myeloma/PTLD
   - continue sirolimus 2mg PO daily
   - Decadron 20mg IV daily
   - continue valganciclovir 450mg PO twice a week
   - f/u BMT recs regarding adjustment in medications
   .
   # Bicytopenia
   - transfuse plt<10, hct<21
   - guaic all stools
   - likely malignancy related
   - [**Hospital1 7**] CBC
   - hapto and fibrinogen wnl
   - DIC labs Q 4hrs
   .
   # FEN: OG tube in place, and started tube feeds with [**Hospital1 981**] Renal last
   night
   .
   # Access- Hickman line placed [**6-6**] [**6-16**]
   HD line placed [**6-16**]
   .
   # PPx: pneumoboots, PPI
   .
   # Code:  FULL
   .
   # Dispo:  ICU
   .
   # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   [**Name (NI) 981**] Renal (Full) - [**2137-6-17**] 12:00 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-17 09:39:00 Physician Attending Progress Note
Chief Complaint: Acute renal failure, metabolic acidosis, liver
   failure, lymphoma, respiratory distress, hypoxemia, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient given platelets and FFP prior to placement of HD catheter.
   Started on dialysis. Vent adjusted to accommodate for metabolic
   acidosis. Prior to initiation of dialysis patient was making < 1 L of
   urine on diuretics.
   Ongoing treatment for lymphoma. Transfused 3 units of PRBC's during
   dialysis.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2137-6-16**] 02:12 PM
 TUNNELED (HICKMAN) LINE - START [**2137-6-16**] 02:36 PM
 ARTERIAL LINE - START [**2137-6-16**] 04:00 PM
 DIALYSIS CATHETER - START [**2137-6-16**] 06:53 PM
 RECTAL SWAB - At [**2137-6-16**] 11:00 PM
 BLOOD CULTURED - At [**2137-6-17**] 12:54 AM
 FEVER - 102.2
F - [**2137-6-17**] 04:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-17**] 08:19 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Protonix, decadron, meropenem, ganciclovir, cacarbonate, allopurinol,
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Neurologic: Sedated
   Flowsheet Data as of  [**2137-6-17**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 39.7
C (103.4
   HR: 144 (115 - 145) bpm
   BP: 141/53(72) {130/53(72) - 141/92(101)} mmHg
   RR: 27 (16 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   Mixed Venous O2% Sat: 87 - 87
   Total In:
                                                                  2,553 mL
                                                                    696 mL
   PO:
   TF:
                                                                    134 mL
   IVF:
                                                                    799 mL
                                                                    562 mL
   Blood products:
                                                                  1,754 mL
   Total out:
                                                                  3,003 mL
                                                                      0 mL
   Urine:
                                                                      3 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -450 mL
                                                                    696 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 600) mL
   Vt (Spontaneous): 628 (628 - 931) mL
   PS : 5 cmH2O
   RR (Set): 30
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   SpO2: 94%
   ABG: 7.35/32/91.[**Numeric Identifier 143**]/17/-6
   Ve: 16.2 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Summation gallop
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: ), Clear anteriorally and laterally
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: chest, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   24 K/uL
   61 mg/dL
   3.6 mg/dL
   17 mEq/L
   5.2 mEq/L
   72 mg/dL
   101 mEq/L
   139 mEq/L
   26.4 %
   9.3 K/uL
        [image002.jpg]
                             [**2137-6-16**]  03:37 PM
                             [**2137-6-16**]  05:25 PM
                             [**2137-6-16**]  07:10 PM
                             [**2137-6-16**]  10:34 PM
                             [**2137-6-17**]  12:00 AM
                             [**2137-6-17**]  01:15 AM
                             [**2137-6-17**]  05:00 AM
                             [**2137-6-17**]  05:05 AM
   WBC
   9.2
   10.2
   9.3
   Hct
   17.8
   25.7
   26.4
   Plt
   37
   36
   24
   Cr
   4.6
   3.2
   3.6
   TCO2
   12
   14
   18
   19
   18
   Glucose
   91
   66
   103
   61
   Other labs: PT / PTT / INR:21.0/43.5/1.9, Differential-Neuts:88.0 %,
   Band:2.0 %, Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:216 mg/dL,
   Lactic Acid:10.0 mmol/L, LDH:630 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL,
   PO4:6.9 mg/dL
   Imaging: CXR:  bilateral effusions. Possible RUL and LLL infiltrates,
   Interstitial and alveolar edema. ETT too high.
   Assessment and Plan
   1) Respiratory Failure
   2) Acute Renal Failure
   3) Liver Failure
   4) Metabolic Acidosis
   5) Anemia
   6) Tachycardia
   Patient with high minute ventilation and only mildly reduced PaCO2
   consistent with increased alveolar dead space. Patient with increased
   A-a gradient. Likely has volume overload leading to problems with gas
   exchange. Not clear that there is a superimposed infection now,
   althought the patchy RUL infiltrate could be an infectious process.
   Continue present antibiotics. Needs to be volume negative with
   dialysis. With persistent tachycardia and low-moderate probability
   perfusion scan, I would obtain LENI's to assess for DVT. Avoid CTA for
   now given renal failure. INR up due to liver failure. AutoPEEP 5.3 this
   AM. Will reduce PEEP on vent to 7; see if oxygenation holds.
   Acute renal failure felt to be due to ATN at this time. Continues on
   dialsysis. Anion gap acidosis persists. Mild hyperkalemia persists.
   Treatment for lymphoma initiated.
   Hct acceptable today. Plateley count low. Neither requires transfusion
   at this time.
   Anion gap acidosis probably due to renal failure; as liver failure
   progresses, may develop lactic acidosis if problems with clearing of
   lactate.
   Rash concerning for drug reaction. Consider removing rapimmune.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2137-6-17**] 12:00 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments: Patient does not meet criteria for daily wake up and RSBI.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2137-06-18 07:18:00 Physician Resident Progress Note
Chief Complaint: 59 yo M, s/p cord transplant 2 mo ago, now with signs
   of PTLD with liver failure, renal failure, UTI, PNA
   24 Hour Events:
   LENI of [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]- no e/o DVTs bilaterally
   Was dialyzed yesterday, also given a dose of Nitrogen Mustard yesterday
   evening per Onc recs
   Labs showed evidence of intravascular hemolysis. DIC labs, CBC Q 3hrs;
   plts low, receiving 1 unit of platelets.
   ABG at 3 PM yesterday afternoon was 7.33/38/148 on CPAP [**8-27**], FiO2 of
   50%
   Pt was switched over to AC 600x19 PEEP 7 FIO2 50% to support
   respiratory compensation of MA, however, repeat ABG at 1AM was
   7.29/31/109
RR was then increased to 23, Repeat ABG 7.28/35/114. Rate
   was increased once again to 25.
 ULTRASOUND (for lower extremities, r/o DVT) - At [**2137-6-17**] 10:30 AM
 FEVER - 103.4
F - [**2137-6-17**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-17**] 08:19 AM
   Meropenem - [**2137-6-17**] 11:59 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Metoprolol - [**2137-6-17**] 05:49 PM
   Midazolam (Versed) - [**2137-6-17**] 08:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-18**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.7
C (103.4
   Tcurrent: 37.4
C (99.3
   HR: 117 (113 - 157) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 9 (7 - 17)mmHg
   Total In:
                                                                  1,535 mL
                                                                    500 mL
   PO:
   TF:
                                                                    502 mL
                                                                    176 mL
   IVF:
                                                                    958 mL
                                                                    153 mL
   Blood products:
                                                                     42 mL
   Total out:
                                                                  3,043 mL
                                                                     12 mL
   Urine:
                                                                     43 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,508 mL
                                                                    488 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 774 (628 - 993) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 14 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.28/35/114/14/-9
   Ve: 15.3 L/min
   PaO2 / FiO2: 285
   Physical Examination
   GEN: intubated, sedated, not responsive to commands +jaundice, anasarca
   Heart: tachycardic, regular rhythm
   Lungs: Coarse upper airway sounds, clear to auscultation anteriorly
   Abd: soft, NDNT + BS
   Ext: 2+ pitting edema
   Labs / Radiology
   10 K/uL
   8.6 g/dL
   63 mg/dL
   3.2 mg/dL
   14 mEq/L
   5.2 mEq/L
   66 mg/dL
   102 mEq/L
   138 mEq/L
   24.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2137-6-17**]  11:07 AM
                             [**2137-6-17**]  02:26 PM
                             [**2137-6-17**]  02:49 PM
                             [**2137-6-17**]  05:45 PM
                             [**2137-6-17**]  07:11 PM
                             [**2137-6-17**]  09:42 PM
                             [**2137-6-18**]  01:30 AM
                             [**2137-6-18**]  01:38 AM
                             [**2137-6-18**]  03:54 AM
                             [**2137-6-18**]  04:16 AM
   WBC
   6.9
   6.8
   Hct
   26.7
   25.4
   25.3
   24.4
   25.1
   24.6
   Plt
   16
   12
   12
   21
   10
   Cr
   2.7
   3.2
   TCO2
   19
   21
   16
   17
   Glucose
   67
   63
   Other labs: PT / PTT / INR:26.8/67.9/2.6, ALT / AST:52/197, Alk Phos /
   T Bili:116/12.2, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:3259 ng/mL, Fibrinogen:184 mg/dL, Lactic
   Acid:10.0 mmol/L, Albumin:1.9 g/dL, LDH:790 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:8.5 mg/dL
   Assessment and Plan
   # Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD.
   - optimize ventilator settings (match pt
s auto PEEP, increase RR to
   the extent that it doesn
t create so much peak insp pressure to avoid
   barotrauma), to increase minute ventilation in order to maintain
   appropriate acid/base balance
   - Diurese via hemodialysis
   - continue abx tx with vancomycin and meropenem for PNA
   - daily vancomycin level, therapeutic today
   - optimize immunosuppression per BMT
   - consider IVIG, was treated with course of Rituxan
   - continue antiviral [**Doctor Last Name **]
   - patient may need tissue biopsy if still unclear etiology and fevers
   recur
   - ID on board, appreciate recs
   # New rash
 may be drug rash vs viral vs GVHD of skin
   - minimize new meds
   - derm consult requested, await recs.
   # Acidosis
   - Patient has a pure anion gap acidosis with appropriate respiratory
   compensation. His delta gap/delta bicarb is appropriate and does not
   indicate a secondary metabolic alkalosis or NAG metabolic acidosis.
   - this is all attributable to lactic acidosis which is also likely
   multifactorial due to increased metabolic rate, the acidosis itself
   along with respiratory alkalosis
   - liver disease may also contribute to decreased lactate clearance
   - continue hemodialysis
   - treat underlying cause of liver dysfunction which is PTLD, this is
   being treated with decreased immunosuppression, steroids, IVIG,
   antivirals
   .
   # Acute renal failure
   - baseline 1.1
   - BK viral load is pending, if this comes back elevated likely
   contributing to current state
   - medications may be contributing to worsening renal fxn.
   - confirmed dense ATN based on urine sediment showwing muddy brown
   casts, ? hypotensive episodes
   - continue HD, goal I/O today -1L
   - renally dose all meds
   .
   # Liver failure
   - biospy confirms involvement with lymphoma c/w PTLD
   - hepatically dose meds and avoid toxins
   - transfuse FFP if active signs bleeding
   - treat underlying PTLD
   .
   # Sinus tachycardia
   - patient has been running 110-120s since admission 10 days ago, now in
   130s-140s
   - small effusion on TTE 3 days ago, normal pulsus
   - if becomes hypotensive or difficult to ventilate will plan on repeat
   TTE
   - V/Q scan showed low-moderate probability for PE, but given pt
s high
   pre-test probability for PE, will check LENIs for eval for DVTs. Will
   hold off on CTA for now given renal failure/ no anticoagulation for
   now.
   - tx with vanco/[**Last Name (un) 614**]/caspo for presumed pneumonia and empiric
   treatment, given new rash and fever, may be pre-septic.
   - TSH 2.8 on [**2137-6-3**]
   - check u/a
   - anemia likely contributing, will transfuse 2 units pack red cells now
   and then for hct<21 or if he needs any volume
   - no signs of ischemia on ECG, no chest pain prior to intubation
   .
   # Myeloma/PTLD
   - continue sirolimus 2mg PO daily
   - Decadron 20mg IV daily
   - continue valganciclovir 450mg PO twice a week
   - f/u BMT recs regarding adjustment in medications
   .
   # Bicytopenia
   - transfuse plt<10, hct<21
   - guaic all stools
   - likely malignancy related
   - [**Hospital1 7**] CBC
   - hapto and fibrinogen wnl
   - DIC labs Q 4hrs
   .
   # FEN: OG tube in place, and started tube feeds with [**Hospital1 981**] Renal last
   night
   .
   # Access- Hickman line placed [**6-6**] [**6-16**]
   HD line placed [**6-16**]
   .
   # PPx: pneumoboots, PPI
   .
   # Code:  FULL
   .
   # Dispo:  ICU
   .
   # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   [**Name (NI) 981**] Renal (Full) - [**2137-6-17**] 01:21 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-18 10:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, acute renal failure, pneumonia,
   metabolic acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   LENI was negative for DVT. Patient dialyzed yesterday and given
   nitrogen mustard for his tumor. Serum lactic acid is rising.
   Transfused 1 unit of platelets this morning.
   Large dead space persists re: ventilation. Unable to compensate for
   worsening metabolic acidosis. Switched back to assist control from PSV.
   Has had increasing ventilatory requirements. With higher rates, having
   autoPEEP. Ventilator PEEP increased to match autoPEEP.
   Required lopressor X 2 for episodes of tachycardia with minimal effect.
   Then sedated with improved HR.
   Rash has resolved.
   24 Hour Events:
 ULTRASOUND - At [**2137-6-17**] 10:30 AM
 FEVER - 103.4
F - [**2137-6-17**] 08:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated/ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-17**] 08:19 AM
   Meropenem - [**2137-6-17**] 11:59 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Metoprolol - [**2137-6-17**] 05:49 PM
   Midazolam (Versed) - [**2137-6-17**] 08:45 PM
   Dextrose 50% - [**2137-6-18**] 06:30 AM
   Other medications:
   protonix, folic acid, decadron, calicum carbonate, allopurinol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-18**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.4
C (99.3
   HR: 117 (113 - 157) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 9 (7 - 17)mmHg
   Total In:
                                                                  1,535 mL
                                                                    986 mL
   PO:
   TF:
                                                                    502 mL
                                                                    253 mL
   IVF:
                                                                    958 mL
                                                                    222 mL
   Blood products:
                                                                    356 mL
   Total out:
                                                                  3,043 mL
                                                                     12 mL
   Urine:
                                                                     43 mL
                                                                     12 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,508 mL
                                                                    974 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (500 - 600) mL
   Vt (Spontaneous): 774 (664 - 993) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 3
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 23 cmH2O
   Plateau: 22 cmH2O
   SpO2: 94%
   ABG: 7.28/31/116/14/-10
   Ve: 15.5 L/min
   PaO2 / FiO2: 290
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: No(t) Conjunctiva pale, Sclera edema, Scleral
   icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   10 K/uL
   63 mg/dL
   3.2 mg/dL
   14 mEq/L
   5.2 mEq/L
   66 mg/dL
   102 mEq/L
   138 mEq/L
   24.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2137-6-17**]  02:26 PM
                             [**2137-6-17**]  02:49 PM
                             [**2137-6-17**]  05:45 PM
                             [**2137-6-17**]  07:11 PM
                             [**2137-6-17**]  09:42 PM
                             [**2137-6-18**]  01:30 AM
                             [**2137-6-18**]  01:38 AM
                             [**2137-6-18**]  03:54 AM
                             [**2137-6-18**]  04:16 AM
                             [**2137-6-18**]  08:41 AM
   WBC
   6.9
   6.8
   Hct
   26.7
   25.4
   25.3
   24.4
   25.1
   24.6
   Plt
   16
   12
   12
   21
   10
   Cr
   2.7
   3.2
   TCO2
   21
   16
   17
   15
   Glucose
   67
   63
   Other labs: PT / PTT / INR:26.8/67.9/2.6, ALT / AST:52/197, Alk Phos /
   T Bili:116/12.2, Differential-Neuts:88.0 %, Band:2.0 %, Lymph:3.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:3259 ng/mL, Fibrinogen:184 mg/dL, Lactic
   Acid:10.0 mmol/L, Albumin:1.9 g/dL, LDH:790 IU/L, Ca++:6.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:8.5 mg/dL
   Imaging: CXR: elevated ETT. Clearer lung fields on right. Small left
   effusion
   Assessment and Plan
   1) Respiratory failure
   2) Acute renal failure
   3) metabolic acidosis
   4) anemia
   5) Fever
   6) Lymphoma
   7) Thrombocytopenia
   Patient's oxygenation remains good on FIO2=0.4. Now receiving
   14-15L/min to compensate for his metabolic acidosis in the face of
   moderate pulmonary dead space. Has autoPEEP of 8 on rounds. Cannot go
   up any farther on tidal volume given ventilation guidelines to avoid
   ARDS; now getting 8 ml/kg ideal body weight. CXR looks improved re:
   patchy infiltrate on the right. Continue present vent settings.
   Dialysis continues. Significant metabolic acidosis persists. CVP up to
   [**11-2**] today. Should have fluid removed with dialysis. Hyperkalemia may
   reflect, in part, intracellular/extracellular shifts with acidemia.
   No clear source of fever. Cultures negative from lines.
   Hct in mid-20's. No need for transfusion now. Question as to whether
   hemolysis present.
   Liver failure contributing to patient's inability to clear lactate.
   Platelet count down today. Patient to receive transfusion.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2137-6-17**] 01:21 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments: Does not meet criteria for daily wake-up and RSBI.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   rounds.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **], MD

2137-06-19 06:55:00 Physician Resident Progress Note
Chief Complaint: 59 yo  M with MM, s/p cord transplant 2 mo ago, now
   with e/o PTLD with liver fx, renal fx, fevers
   24 Hour Events:
 FEVER - 101.8
F - [**2137-6-18**] 08:00 AM
   at 0840: ABG 7.28/31/116/15 AC 600x25, PEEP 7, FiO2 0.4
   Repeat ABG after HD: 7.37/31/171 AC 600x25, PEEP 7, FiO2 0.4
   Was dialysed yesterday with 3L of fluid taken off. Near the end of
   dialysis, pt became tachycardic (HR 170s) and hypotensive (SBP 90s).
   Afebrile at 98.7 F. Pt was given back 300 cc of the rinsing, which
   slowing of HR by ~10 beats/min. BP recovered to 110s-120s/60s-70s. EKG
   was done, ? afib. Gave another 250cc of NS, Lopressor 5 mg x 2 with
   minimal effect.
   Hct dropped to 21.7 from 24.6, was transfused 2 units. After 1 unit of
   pRBC, hct only increased by 0.7. However, with transfusion of blood, BP
   slowed to 90s-100s and SBP 150s-160s.
   INR persistently high at 2.1. Given e/o bleeding in pt's gums and
   suctioned secretions, in addition to OB + stool, decision was made to
   give FFP and plts. Pt also to receive 2 more units of pRBC. Pt most
   likely hemolyzing actively.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-18**] 08:00 AM
   Meropenem - [**2137-6-18**] 12:09 PM
   Infusions:
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Dextrose 50% - [**2137-6-18**] 06:30 AM
   Metoprolol - [**2137-6-18**] 07:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-19**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.8
C (100
   HR: 97 (93 - 162) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 25 (20 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 18 (11 - 18)mmHg
   Total In:
                                                                  3,963 mL
                                                                  1,509 mL
   PO:
   TF:
                                                                    640 mL
                                                                    256 mL
   IVF:
                                                                  1,656 mL
                                                                    290 mL
   Blood products:
                                                                  1,412 mL
                                                                    963 mL
   Total out:
                                                                     19 mL
                                                                      8 mL
   Urine:
                                                                     19 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,944 mL
                                                                  1,501 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.37/30/95.[**Numeric Identifier 218**]/17/-5
   Ve: 15.5 L/min
   PaO2 / FiO2: 238
   Physical Examination
   GEN: jaundiced. Intubated, sedated. +anasarca
   Heart: tachy, regular rhythm, normal S1 and S2. soft pericardial rub on
   expiration in left upper sternal border
   Lungs: CTA bilaterally
   Abd: mildly distended, soft. NABS.
   Ext: 2+ pitting edema.
   Labs / Radiology
   31 K/uL
   8.6 g/dL
   150 mg/dL
   2.4 mg/dL
   17 mEq/L
   4.6 mEq/L
   62 mg/dL
   101 mEq/L
   138 mEq/L
   24.2 %
   2.5 K/uL
        [image002.jpg]
                             [**2137-6-18**]  01:38 AM
                             [**2137-6-18**]  03:54 AM
                             [**2137-6-18**]  04:16 AM
                             [**2137-6-18**]  08:41 AM
                             [**2137-6-18**]  11:12 AM
                             [**2137-6-18**]  04:13 PM
                             [**2137-6-18**]  07:49 PM
                             [**2137-6-18**]  10:00 PM
                             [**2137-6-18**]  11:11 PM
                             [**2137-6-19**]  04:38 AM
   WBC
   6.8
   3.3
   3.5
   2.5
   Hct
   24.6
   21.7
   22.4
   24.2
   Plt
   10
   35
   31
   20
   31
   Cr
   3.2
   2.2
   2.4
   TCO2
   16
   17
   15
   19
   18
   Glucose
   63
   147
   150
   Other labs: PT / PTT / INR:19.7/50.5/1.8, ALT / AST:52/197, Alk Phos /
   T Bili:116/12.2, Differential-Neuts:87.0 %, Band:0.0 %, Lymph:7.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:2219 ng/mL, Fibrinogen:197 mg/dL, Lactic
   Acid:9.4 mmol/L, Albumin:1.9 g/dL, LDH:834 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:8.3 mg/dL
   Assessment and Plan
   # Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD.
   - optimize ventilator settings (match pt
s auto PEEP, RR may be
   decreased if pH WNL).  Support ventilation in order to maintain
   appropriate acid/base balance
   - Continue hemodialysis per renal, however, monitor closely for sinus
   tach/ a fib. [**Month (only) 51**] not be able to tolerate abrupt shifts in fluid.
   - continue abx tx with vancomycin and meropenem for PNA (Vanc was not
   given yest after dialysis)
   - daily vancomycin level
   - optimize immunosuppression per BMT
   - consider IVIG, was treated with course of Rituxan
   - continue antiviral [**Doctor Last Name **]
   - patient may need tissue biopsy if still unclear etiology and fevers
   recur
   - ID on board, appreciate recs
   # Metabolic acidosis with high lactate, likely multifactorial due to
   increased metabolic rate and liver dysfxn leading to decreased lactate
   clearance
   - continue hemodialysis with low K, high Ca, high bicarb bath
   - treat underlying cause of liver dysfunction which is PTLD, this is
   being treated with decreased immunosuppression, steroids, IVIG,
   antivirals
    # Pancytopenia, with likely intravascular hemolysis and low grade
   bleeding (bleeding gums, pink residuals, guaiac pos stools).
   - transfuse plt<30, hct<21
   - guaic all stools
   - likely malignancy related
   - haptoglobin level is low yield given liver failure
   - f/u smear
   - DIC labs Q 8hrs to prevent iatrogenic phlebotomy
   # Acute renal failure, baseline 1.1, now with new pericardial rub
   likely due to uremia.
   - BK viral load is pending, if this comes back elevated likely
   contributing to current state
   - medications may be contributing to worsening renal fxn.
   - confirmed dense ATN based on urine sediment showing muddy brown
   casts, ? hypotensive episodes
   - f/u renal recs for ?HD today
   - appreciate renal recs
   - renally dose all meds
   # Liver failure- treat supportively, treat underlying cause
   - biospy confirms involvement with lymphoma c/w PTLD
   - hepatically dose meds and avoid toxins
   - transfuse FFP if active signs bleeding
   - transfuse Plts if plt<30
   - treat underlying PTLD
   # Sinus tachycardia, minimally responsive to Lopressor. This is in the
   setting of low grade fever.
   - may be related to intravascular volume.
   - unknown source of infection.
   - small effusion on [**Doctor Last Name **] 3 days ago, normal pulsus
   - if becomes hypotensive or difficult to ventilate will plan on repeat
   [**Name (NI) **]
   - pt has high coagulability due to presence of malignancy- DVTs ruled
   out by LENI, VQ scan [**Location (un) 988**]-mod probability. Will hold off on CTA
   given renal failure
   - tx with vanco/[**Last Name (un) 614**]/caspo for presumed pneumonia and empiric
   treatment, given new rash and fever, may be pre-septic.
   - anemia likely contributing, will transfuse pRBCs as necessary.
   - no signs of ischemia on ECG, no chest pain prior to intubation
   # Myeloma/PTLD
   - continue sirolimus 2mg PO daily
   - Decadron decreased to 10mg IV daily per Heme/Onc recs
   - continue valganciclovir 450mg PO twice a week
   - appreciate renal recs
    # episode of hypoglycemia
   - Q6 hr FS.
    # FEN: on tubefeeds with [**Last Name (un) 981**] Renal
    # Access- Hickman line placed [**6-6**]
   arterial line placed [**6-16**]
   HD line placed [**6-16**]
   # PPx: pneumoboots, PPI
   # Code:  FULL
   # Dispo:  ICU; will discuss with heme/onc regarding goals of therapy.
    # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   [**Name (NI) 981**] Renal (Full) - [**2137-6-17**] 01:21 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-19 09:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, renal failure, liver failure,
   myelomam, anemia, metabolic acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Temp to 101.8 yesterday in AM. Lower during the day. Dialysed
   yesterday. Tachycardia and hypotension at end of dialysis. Given some
   fluid back with improved BP. ECG consistent with afib. Given Lopressor
   and fluid with minimal effect. Given transfusion of PRBC's and
   converted back to NSR.
   INR 2.1 with bleeding gums and guaiac positive stool. Given FFP and
   platelets.
   Metabolic acidosis improved with dialysis. Serum calcium low; calcium
   gluconate given.
   24 Hour Events:
 FEVER - 101.8
F - [**2137-6-18**] 08:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2137-6-18**] 12:09 PM
   Caspofungin - [**2137-6-19**] 08:00 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2137-6-18**] 07:25 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-19**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 92 (91 - 162) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 25 (22 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 17 (11 - 18)mmHg
   Total In:
                                                                  3,963 mL
                                                                  2,224 mL
   PO:
   TF:
                                                                    640 mL
                                                                    375 mL
   IVF:
                                                                  1,656 mL
                                                                    583 mL
   Blood products:
                                                                  1,412 mL
                                                                  1,266 mL
   Total out:
                                                                     19 mL
                                                                      8 mL
   Urine:
                                                                     19 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,944 mL
                                                                  2,216 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: 7.37/30/95.[**Numeric Identifier 218**]/17/-5
   Ve: 16.4 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), pericardial friction rub heard over mid sternum
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   31 K/uL
   150 mg/dL
   2.4 mg/dL
   17 mEq/L
   4.6 mEq/L
   62 mg/dL
   101 mEq/L
   138 mEq/L
   24.2 %
   2.5 K/uL
        [image002.jpg]
                             [**2137-6-18**]  01:38 AM
                             [**2137-6-18**]  03:54 AM
                             [**2137-6-18**]  04:16 AM
                             [**2137-6-18**]  08:41 AM
                             [**2137-6-18**]  11:12 AM
                             [**2137-6-18**]  04:13 PM
                             [**2137-6-18**]  07:49 PM
                             [**2137-6-18**]  10:00 PM
                             [**2137-6-18**]  11:11 PM
                             [**2137-6-19**]  04:38 AM
   WBC
   6.8
   3.3
   3.5
   2.5
   Hct
   24.6
   21.7
   22.4
   24.2
   Plt
   10
   35
   31
   20
   31
   Cr
   3.2
   2.2
   2.4
   TCO2
   16
   17
   15
   19
   18
   Glucose
   63
   147
   150
   Other labs: PT / PTT / INR:19.7/50.5/1.8, ALT / AST:52/197, Alk Phos /
   T Bili:116/12.2, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:2219 ng/mL, Fibrinogen:197 mg/dL, Lactic
   Acid:9.4 mmol/L, Albumin:1.9 g/dL, LDH:834 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.4 mg/dL, PO4:8.3 mg/dL
   Imaging: CXR: more defined RLL infiltrate. Increased vascular markings
   Assessment and Plan
   1) Respiratory failure
   2) Renal failure
   3) Anemia
   4) Pneumonia
   5) Thrombocytopenia
   6) Metabolic acidosis
   Oxygenation adequate on FIO2=0.4. Respiratory rate reduced to 20 on
   rounds with improved acid-base status. CXR shows increased vascular
   markings. CVP 16-17. Will need additional fluid removed before we can
   consider weaning from the ventilator. Need for blood products has made
   this difficult in the context of renal failure.
   Dialysed yesterday. Pericardial friction rub present today (soft,
   midsternum, heard during expiration). Will continue to require
   dialysis.
   Continues on antibiotics. No new culture data.
   Hct mid-20's. No need for transfusion at this time. Ongoing concerns
   about low grade bleeding and hemolysis.
   Metabolic acidosis improved post-dialysis, but lactic acid persists.
   ICU Care
   Nutrition:
   [**Year (4 digits) 981**] Renal (Full) - [**2137-6-17**] 01:21 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: Does not meet requirements for daily wake up and RSBI
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2137-06-20 07:29:00 Physician Resident Progress Note
Chief Complaint: 59 yo M with 8 yr h/o MM, s/p cord transplant 2 mo
   ago; with liver failure, renal failure, resp failure, fevers, likely
   due to post-transplant lymphodysplasia
   24 Hour Events:
   Having persistent fevers.
   Having frequent loose stools.
   TTE repeated last night.
   D/C versed, wean down Fentanyl to decrease sedation and prepare for
   possible extubation.
   Vent settings changed with lower rate to decrease MV, as pt is better
   able to compensate for metabolic acidosis.
   1 bag of plts given yest for Plt count= 23. Remains at 23 even after
   the transfusion
   Pt had persistent hiccups, was given Zofran 8 mg.
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-19**] 08:00 AM
   Meropenem - [**2137-6-19**] 12:00 PM
   Vancomycin - [**2137-6-19**] 05:30 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2137-6-19**] 04:15 PM
   Fentanyl - [**2137-6-19**] 04:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-20**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 39
C (102.2
   HR: 107 (91 - 107) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (18 - 25) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 18 (11 - 19)mmHg
   Total In:
                                                                  4,862 mL
                                                                    838 mL
   PO:
   TF:
                                                                    960 mL
                                                                    277 mL
   IVF:
                                                                  1,914 mL
                                                                    394 mL
   Blood products:
                                                                  1,888 mL
                                                                    148 mL
   Total out:
                                                                  3,013 mL
                                                                      0 mL
   Urine:
                                                                     13 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,849 mL
                                                                    838 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 92%
   ABG: 7.36/32/84.[**Numeric Identifier 1000**]/16/-6
   Ve: 13.1 L/min
   PaO2 / FiO2: 210
   Physical Examination
   Gen: jaundiced, intubated, not responsive
   Heart: tachycardic, regular rhythm. No M/R/G
   Lungs: diminished air flow, R>L. No wheezes or rhonci.
   Abd: soft, mildly distended, + BS
   Ext: [**12-23**]+pitting edema
   Labs / Radiology
   23 K/uL
   10.3 g/dL
   129 mg/dL
   3.3 mg/dL
   16 mEq/L
   5.3 mEq/L
   100 mg/dL
   106 mEq/L
   141 mEq/L
   28.6 %
   1.7 K/uL
        [image002.jpg]
                             [**2137-6-18**]  10:00 PM
                             [**2137-6-18**]  11:11 PM
                             [**2137-6-19**]  04:38 AM
                             [**2137-6-19**]  01:26 PM
                             [**2137-6-19**]  01:49 PM
                             [**2137-6-19**]  05:02 PM
                             [**2137-6-19**]  07:59 PM
                             [**2137-6-19**]  08:34 PM
                             [**2137-6-20**]  03:56 AM
                             [**2137-6-20**]  04:19 AM
   WBC
   3.5
   2.5
   1.7
   Hct
   22.4
   24.2
   29.2
   29.4
   28.6
   Plt
   20
   31
   19
   33
   23
   23
   Cr
   2.2
   2.4
   3.3
   TCO2
   18
   19
   19
   19
   Glucose
   147
   150
   129
   Other labs: PT / PTT / INR:20.3/53.8/1.9, ALT / AST:54/263, Alk Phos /
   T Bili:101/12.9, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:2219 ng/mL, Fibrinogen:193 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:1391 IU/L, Ca++:5.1 mg/dL,
   Mg++:2.8 mg/dL, PO4:11.6 mg/dL
   Imaging: TTE [**2137-6-19**]
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thicknesses and cavity size are normal. Regional left
   ventricular wall motion is normal. Overall left ventricular systolic
   function is low normal (LVEF 55%). Right ventricular chamber size and
   free wall motion are normal. The aortic valve leaflets (3) appear
   structurally normal with good leaflet excursion and no aortic
   regurgitation. The mitral valve leaflets are structurally normal. There
   is no mitral valve prolapse. Mild (1+) mitral regurgitation is seen.
   There is no pericardial effusion.
   Compared with the prior study (images reviewed) of [**2137-6-13**], the heart
   rate is slower and biventricular systolic function is less dynamic. The
   very small pericardial effusion is no longer seen.
   Microbiology:
   BCx X 3 [**6-18**] Neg to date
   BCx X 2 [**6-17**] Neg to date
   BCx x 1 [**6-14**] Neg to date
   Urine Cx [**6-18**] Neg (final)
   Urine Cx [**6-17**] GRAM POSITIVE BACTERIA.    ~1000/ML.  SUGGESTING
   STAPHYLOCOCCI.
   [**6-17**] VRE swab neg
   [**6-16**] MRSA screen neg
   [**6-12**] Legionella ag neg
   [**6-12**] HCV/HBV viral loads undetectable
   Assessment and Plan
   # Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD.
   - Vent rate [**Month (only) **]'d yest to lower minute ventilation; pt tolerated it
   well. Lactate decreasing. [**Month (only) 51**] be able to decrease MV further and
   prepare for possible extubation if continue to do well.
   - Switched to pressure support during rounds today.
 check repeat ABGs
   - Weaned off Versed, fentanyl gtt; on fentanyl boluses only for
   position changing manuevers.
 Assess MS, keep pt alert.
   - Repeat CXR this AM as earlier film was technically inadequate.
   # Metabolic acidosis with high lactate, likely multifactorial due to
   increased metabolic rate and liver dysfxn leading to decreased lactate
   clearance
   - Lactate decreasing; pt able to maintain good pH with resp
   compensation
   - with increased volume of diarrhea, pt may also develop non anion gap
   acidosis, which may make his overall acidosis worse.
   - treat underlying cause of liver dysfunction which is PTLD, this is
   being treated with decreased immunosuppression, steroids, IVIG,
   antivirals
   # Frequent, loose stools; chronic, but worsening in the last few days
   - [**Month (only) 51**] be side effect of chemotherapy
 d/w Heme/Onc
   - Send stool studies, C. diff
 last checked [**6-9**], all neg
   - Will talk to Heme/onc regarding ?prophylactic flagyl.
    # Pancytopenia, with likely intravascular hemolysis and low grade
   bleeding (bleeding gums, pink residuals, guaiac pos stools). Also
   probably side effect of chemotherapy.
   - transfuse if plt<30-40, hct<21
   - haptoglobin level is low yield given liver failure
   - f/u smear
   - Space out DIC labs Q 8hrs to reduce phlebotomy (will discuss
   frequency with Heme/Onc)
   # Acute renal failure, baseline 1.1, now with new pericardial rub
   likely due to uremia. Anuric. Confirmed dense ATN based on urine
   sediment showing muddy brown casts; also adding to the renal failure is
   tumor lysis (increasing uric acid, LDH, low Ca, high K)
   - HD was held off yesterday, plan for this AM. Monitor closely for
   sinus tach/ a fib. [**Month (only) 51**] not be able to tolerate abrupt shifts in fluid
   and electrolytes.
   - [**Month (only) 51**] require CVVH
 will d/w renal about timing of initiation
   - Minimize fluid intake
   - Appreciate Renal recs.
   - BK viral load is pending, if this comes back elevated likely
   contributing to current state
   - Renally dose meds
   # Liver failure- treat supportively, treat underlying cause
   - Liver enzymes climbing.
   - biospy confirms involvement with lymphoma c/w PTLD
   - hepatically dose meds and avoid toxins
   - transfuse FFP if INR<2.0 and + active bleeding
   - transfuse Plts if plt<30-40
   - treat underlying PTLD
   # Sinus tachycardia, minimally responsive to Lopressor. This is in the
   setting of persistent fever.
   - CVP=18 this AM
   - unknown source of infection.
   - TTE repeated yesterday due to new pericardial rub: no pericardial
   effusion
   - pt has high coagulability due to presence of malignancy- DVTs ruled
   out by LENI, VQ scan [**Location (un) 988**]-mod probability. Will hold off on CTA
   given renal failure
   - anemia likely contributing, will transfuse pRBCs as necessary.
   - no signs of ischemia on ECG, no chest pain prior to intubation
   # Myeloma/PTLD
   - Received Valcade last night; will get rituxan this AM
   - continue sirolimus 2mg PO daily
   - Decadron decreased to 10mg IV daily per Heme/Onc recs
   - continue valganciclovir 450mg PO twice a week
   - appreciate BMT recs
   # Blood sugar in the setting of steroid administration
   - Q6 hr FS, on ISS. Will consider tightening control, however, there
   was an episode of hypoglycemia two days ago.
   # FEN: on tubefeeds with [**Location (un) 981**] Renal
   - electrolytes: Ca persistantly low. Will replete with 8g calcium
   gluconate and recheck Q 4 hrs.
   # Access:
   - Hickman line placed [**6-6**]
   - arterial line placed [**6-16**]
   - HD line placed [**6-16**]
   # PPx: pneumoboots, PPI
   # Code:  FULL
   # Dispo:  ICU; will discuss with heme/onc regarding goals of therapy.
    # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   [**Name (NI) 981**] Renal (Full) - [**2137-6-17**] 01:21 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-20 11:42:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, renal failure, acidemia, lymphoma
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Increasing loose stools.
   Ventilated with lower rate during the night. Lactate coming down.
   Transfused platelets last night but count remains < 25,000.
   Continues with daily fevers. LFT's continue to worsen.
   Echocardiogram showed low normal LVEF with mild mitral regurgitation.
   No pericardial effusion seen.
   24 Hour Events:
 FEVER - 102.5
F - [**2137-6-19**] 08:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2137-6-19**] 12:00 PM
   Vancomycin - [**2137-6-19**] 05:30 PM
   Caspofungin - [**2137-6-20**] 08:00 AM
   Valgancyclovir - [**2137-6-20**] 10:34 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2137-6-19**] 04:15 PM
   Fentanyl - [**2137-6-19**] 04:35 PM
   Pantoprazole (Protonix) - [**2137-6-20**] 08:00 AM
   Other medications:
   Folic acid, allopurinol, Tums
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-20**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38
C (100.4
   HR: 98 (94 - 107) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (18 - 25) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 18 (11 - 19)mmHg
   Total In:
                                                                  4,862 mL
                                                                  1,742 mL
   PO:
   TF:
                                                                    960 mL
                                                                    444 mL
   IVF:
                                                                  1,914 mL
                                                                    801 mL
   Blood products:
                                                                  1,888 mL
                                                                    352 mL
   Total out:
                                                                  3,013 mL
                                                                      7 mL
   Urine:
                                                                     13 mL
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,849 mL
                                                                  1,735 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 91%
   ABG: 7.36/32/84.[**Numeric Identifier 1000**]/16/-6
   Ve: 13 L/min
   PaO2 / FiO2: 210
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorly and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   23 K/uL
   129 mg/dL
   3.3 mg/dL
   16 mEq/L
   5.3 mEq/L
   100 mg/dL
   106 mEq/L
   141 mEq/L
   28.6 %
   1.7 K/uL
        [image002.jpg]
                             [**2137-6-18**]  10:00 PM
                             [**2137-6-18**]  11:11 PM
                             [**2137-6-19**]  04:38 AM
                             [**2137-6-19**]  01:26 PM
                             [**2137-6-19**]  01:49 PM
                             [**2137-6-19**]  05:02 PM
                             [**2137-6-19**]  07:59 PM
                             [**2137-6-19**]  08:34 PM
                             [**2137-6-20**]  03:56 AM
                             [**2137-6-20**]  04:19 AM
   WBC
   3.5
   2.5
   1.7
   Hct
   22.4
   24.2
   29.2
   29.4
   28.6
   Plt
   20
   31
   19
   33
   23
   23
   Cr
   2.2
   2.4
   3.3
   TCO2
   18
   19
   19
   19
   Glucose
   147
   150
   129
   Other labs: PT / PTT / INR:20.3/53.8/1.9, ALT / AST:54/263, Alk Phos /
   T Bili:101/12.9, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:2219 ng/mL, Fibrinogen:193 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:1391 IU/L, Ca++:5.1 mg/dL,
   Mg++:2.8 mg/dL, PO4:11.6 mg/dL
   Imaging: CXR:
   Assessment and Plan
   1) Respiratory failure
   2) Renal failure
   3) Acidosis
   4) Lymphoma
   5) Anemia
   6) Thrombocytopenia
   Patient's respiratory status improving although O2 sats down today. CVP
   is 18. Patient needs dialysis. With diarrhea, patient will be losing
   bicarbonate and will likely have a non-gap acidosis superimposed on his
   anion gap acidosis, which is likely due primarily to his renal failure
   now. Patient switched to PSV on rounds. He is taking 900 ml VT with
   respiratory rate of [**11-2**], essentially showing Kussmaul breathing with
   metabolic acidosis. Repleting calcium
   Diarrhea concerning for possible C. Diff colitis on broad spectrum
   antibiotics. Consider empiric treatment for c diff pending toxin
   results.
   All blood counts coming down with chemotherapy. No need for RBC
   transfusion now.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2137-6-17**] 01:21 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2137-06-21 07:54:00 Physician Resident Progress Note
Chief Complaint: Resp failure
   24 Hour Events:
   Pt was on CPAP 40%/5 PS/ 5 PEEP since [**40**] noon. Fentanyl and Versed gtt
   off, but pt did not awake, not responsive.  Was dialysed yesterday
   afternoon. HR remained in 140s-150s, SBP 140-150s.
   Desatted on CPAP to 88% w/turning, & came back up to 90%. Turning made
   pt very tachycardic into 170-180s and hypertensive to SBP 190s.
   Suctioning bloody secretions. PEEP increased to 7 & then 10 w/little
   effect. CXR showed increased right-sided infiltrate. FiO2 was increased
   to 50% & O2 sats came up to 92-93%.  pO2 ran 69-73. Finally patient
   desatted to 85% after turning.  Pt appeared ill, RR went down, leading
   to decrease in tidal volume. ABGs: 7.25/48/103 --> Changed vent
   setting  to A/C 600x15, PEEP 10, FiO2 50%  ABG
s improved to:
   7.32/36/101. Rate was further increased to 20.
   Rituxan was started per Heme/Onc, however, due to pt's desat, was
   stopped then restarted at a lower dose.  Timing of Rituxan correlated
   with tachycardia/HTN.
   PLT=15.  LFT
s continue to rise.  INR 1.7-1.8 in setting of bleeding.
   Received 2 units plts, 4 units FFP total overnight.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-20**] 08:00 AM
   Valgancyclovir - [**2137-6-20**] 10:34 AM
   Meropenem - [**2137-6-20**] 06:00 PM
   Vancomycin - [**2137-6-20**] 10:24 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-6-20**] 08:00 AM
   Fentanyl - [**2137-6-21**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-21**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 36.8
C (98.2
   HR: 138 (95 - 156) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 68 Inch
    CVP: 16 (16 - 22)mmHg
   Total In:
                                                                  4,460 mL
                                                                  1,420 mL
   PO:
   TF:
                                                                    960 mL
                                                                    308 mL
   IVF:
                                                                  2,082 mL
                                                                    480 mL
   Blood products:
                                                                  1,233 mL
                                                                    497 mL
   Total out:
                                                                      7 mL
                                                                      5 mL
   Urine:
                                                                      7 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,453 mL
                                                                  1,415 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 627 (578 - 928) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 97%
   ABG: 7.32/36/101/19/-6
   Ve: 11.9 L/min
   PaO2 / FiO2: 202
   Physical Examination
   Gen: Intubated, not responsive. Jaundiced. Bloody gums
   Heart: tachycardic, regular rhythm. No murmurs
   Lungs: Decreased breath sounds R>L. no adventitious sounds
   Abd: soft, mildly distended. Unable to assess tenderness. + BS
   Ext: 2+ pitting edema
   Labs / Radiology
   28 K/uL
   9.2 g/dL
   139 mg/dL
   2.8 mg/dL
   19 mEq/L
   4.5 mEq/L
   74 mg/dL
   103 mEq/L
   139 mEq/L
   25.9 %
   1.5 K/uL
        [image002.jpg]
                             [**2137-6-20**]  03:56 AM
                             [**2137-6-20**]  04:19 AM
                             [**2137-6-20**]  02:39 PM
                             [**2137-6-20**]  06:12 PM
                             [**2137-6-20**]  09:34 PM
                             [**2137-6-20**]  11:11 PM
                             [**2137-6-21**]  12:36 AM
                             [**2137-6-21**]  03:20 AM
                             [**2137-6-21**]  03:27 AM
                             [**2137-6-21**]  04:17 AM
   WBC
   1.7
   1.5
   1.5
   Hct
   28.6
   29.3
   26.7
   25.9
   Plt
   23
   35
   15
   28
   Cr
   3.3
   2.2
   2.8
   TCO2
   19
   23
   21
   21
   22
   19
   Glucose
   129
   121
   139
   Other labs: PT / PTT / INR:19.7/54.9/1.8, ALT / AST:62/294, Alk Phos /
   T Bili:100/13.5, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:2219 ng/mL, Fibrinogen:195 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:1364 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:8.6 mg/dL
   Assessment and Plan
   # Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD.
   - Pt had been doing better, tolerating PS 5/5, but became tachycardic
   and hypertensive yesterday during/after HD, with worsening pH. Required
   vent change to AC, which brought the HR and BP down. Also required
   boluses of fentanyl to control tachycardia and inc BP during position
   change.
   - CXR showing worsening right sided opacities; ddx include drug-related
   lung injury, TRALI, ARDS, diffuse alveolar hemorrhage. Meets criteria
   for acute lung injury (not ARDS yet)
   - Optimize vent settings to minimize barotrauma/stretch injury while
   allowing for respiratory compensation of metabolic acidosis.
   # Metabolic acidosis with high lactate, likely multifactorial due to
   increased metabolic rate and liver dysfxn leading to decreased lactate
   clearance; With increased volume of diarrhea, pt may also develop non
   anion gap acidosis, which may make his overall acidosis worse.
   - Switch to CVVH to minimize large shifts in fluid and electrolytes
   - treat underlying cause of liver dysfunction which is PTLD, this is
   being treated with decreased immunosuppression, steroids, IVIG,
   antivirals
   # Frequent, loose stools; chronic, but worsening in the last few days
   - Flagyl started prophylactically per Heme/Onc
   - Per Heme/Onc, unlikely to be side effect of chemotherapy
   - f/u stool studies, c diff
    # Pancytopenia, with likely intravascular hemolysis and low grade
   bleeding (bleeding gums, pink residuals, guaiac pos stools). Also
   probably side effect of chemotherapy.
   - transfuse if plt<30-40, hct<21
   - haptoglobin level is low yield given liver failure
   - f/u smear
   - Space out DIC labs Q 8hrs to reduce phlebotomy (will discuss
   frequency with Heme/Onc)
   # Acute renal failure, baseline 1.1, now with new pericardial rub
   likely due to uremia. Anuric. Confirmed dense ATN based on urine
   sediment showing muddy brown casts; also adding to the renal failure is
   tumor lysis (increasing uric acid, LDH, low Ca, high K)
   - HD was held off yesterday, plan for this AM. Monitor closely for
   sinus tach/ a fib. [**Month (only) 51**] not be able to tolerate abrupt shifts in fluid
   and electrolytes.
   - [**Month (only) 51**] require CVVH
 will d/w renal about timing of initiation
   - Minimize fluid intake
   - Appreciate Renal recs.
   - BK viral load is pending, if this comes back elevated likely
   contributing to current state
   - Renally dose meds
   # Liver failure- treat supportively, treat underlying cause
   - Liver enzymes climbing.
   - biospy confirms involvement with lymphoma c/w PTLD
   - hepatically dose meds and avoid toxins
   - transfuse FFP if INR<2.0 and + active bleeding
   - transfuse Plts if plt<30-40
   - treat underlying PTLD
   # Sinus tachycardia, minimally responsive to Lopressor. This is in the
   setting of persistent fever.
   - CVP adequate
   - unknown source of infection. Received Vanco 500 mg after HD yesterday
   - TTE repeated yesterday due to new pericardial rub: no pericardial
   effusion
   - pt has high coagulability due to presence of malignancy- DVTs ruled
   out by LENI, VQ scan [**Location (un) 988**]-mod probability. Will hold off on CTA
   given renal failure
   - anemia likely contributing, will transfuse pRBCs as necessary.
   - no signs of ischemia on ECG, no chest pain prior to intubation
   # Myeloma/PTLD
   - Received rituxan yesterday
   - continue sirolimus 2mg PO daily
   - Decadron 10mg IV daily
   - continue valganciclovir 450mg PO twice a week
   - appreciate BMT recs
   # Blood sugar in the setting of steroid administration
   - Q6 hr FS, on ISS. Will consider tightening control, however, there
   was an episode of hypoglycemia two days ago.
   # FEN: on tubefeeds with [**Location (un) 981**] Renal
   - electrolytes: Ca persistantly low. Likely citrate in blood products
   is binding Ca. Pt on Ca repletion sliding scale. Monitor Q4-6.
   # Access:
   - Hickman line placed [**6-6**]
   - arterial line placed [**6-16**]
   - HD line placed [**6-16**]
   # PPx: pneumoboots, PPI
   # Code:  FULL
   # Dispo:  ICU; will discuss with heme/onc regarding goals of therapy.
    # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   [**Name (NI) 981**] Renal (Full) - [**2137-6-17**] 01:21 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-21 09:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, renal failure. liver failure,
   lymphoma, pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had dialysis yesterday and developed tachycardia at end of
   dialysis as he has done in the past.
   Was on PSV, initially with good gas exchange, and then had episodes of
   desaturation in association with his tachycardia. PEEP increased from 7
   to 10. Rituxin had been started earlier in day. Patient was being
   suctioned for bloody secretions. CXR showed increased right lung
   infiltrate. FIO2 increased to 0.5 with improved saturations. PaCO2
   began to rise and ventilator changed to assist control.
   Patient transfused platelets and FFP.
   Continues to have ongong calcium requirement.
   24 Hour Events:
 FEVER - 102.1
F - [**2137-6-21**] 02:05 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive, Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Valgancyclovir - [**2137-6-20**] 10:34 AM
   Meropenem - [**2137-6-20**] 06:00 PM
   Vancomycin - [**2137-6-20**] 10:24 PM
   Caspofungin - [**2137-6-21**] 08:00 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2137-6-21**] 03:15 AM
   Pantoprazole (Protonix) - [**2137-6-21**] 08:00 AM
   Other medications:
   caspofungin, caclium carbonate, allopurinol, decadron, insulin,
   fentanyl,  flagyl, benadryl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-21**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.5
C (99.5
   HR: 141 (95 - 156) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (15 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Height: 68 Inch
   CVP: 13 (13 - 22)mmHg
   Total In:
                                                                  4,460 mL
                                                                  1,779 mL
   PO:
   TF:
                                                                    960 mL
                                                                    347 mL
   IVF:
                                                                  2,082 mL
                                                                    740 mL
   Blood products:
                                                                  1,233 mL
                                                                    497 mL
   Total out:
                                                                      7 mL
                                                                      5 mL
   Urine:
                                                                      7 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,453 mL
                                                                  1,774 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 627 (578 - 928) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: 7.32/36/101/19/-6
   Ve: 13 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: Sclera edema, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, liquid stool in bed
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   28 K/uL
   139 mg/dL
   2.8 mg/dL
   19 mEq/L
   4.5 mEq/L
   74 mg/dL
   103 mEq/L
   139 mEq/L
   25.9 %
   1.5 K/uL
        [image002.jpg]
                             [**2137-6-20**]  03:56 AM
                             [**2137-6-20**]  04:19 AM
                             [**2137-6-20**]  02:39 PM
                             [**2137-6-20**]  06:12 PM
                             [**2137-6-20**]  09:34 PM
                             [**2137-6-20**]  11:11 PM
                             [**2137-6-21**]  12:36 AM
                             [**2137-6-21**]  03:20 AM
                             [**2137-6-21**]  03:27 AM
                             [**2137-6-21**]  04:17 AM
   WBC
   1.7
   1.5
   1.5
   Hct
   28.6
   29.3
   26.7
   25.9
   Plt
   23
   35
   15
   28
   Cr
   3.3
   2.2
   2.8
   TCO2
   19
   23
   21
   21
   22
   19
   Glucose
   129
   121
   139
   Other labs: PT / PTT / INR:19.7/54.9/1.8, ALT / AST:62/294, Alk Phos /
   T Bili:100/13.5, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:2219 ng/mL, Fibrinogen:195 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:1364 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.5 mg/dL, PO4:8.6 mg/dL
   Imaging: CXR: Bilateral alveolar infiltrates right > left advanced from
   previous CXR. Possible bliateral pleural effusions. ETT in acceptable
   position.
   Assessment and Plan
   1) Respiratory Failure
   2) Renal failure
   3) Liver failure
   4) Acidosis
   5) Pancytopenia
   6) Tachycardia
   Respiratory status had detiorated with increasing oxygen requirement
   and somewhat decreased respiratory system compliance. CXR shows
   progressive alveolar infiltrate and he is now in the acute lung injury
   category by gas exchange criteria. Plateau pressure now at 24 with peak
   pressure 30. Patient receiving a bit more than 8 ml/kg tidal volume.
   Keep close eye on plateau pressures today. If he reaches 26, would
   decrease tidal volume to 8 ml/kg, which would be approximately 575 ml.
   Maintain PEEP at 10 for now.
   Dialysis yesterday with initial improvement in serum bicarbonate, but
   by this AM bicarb down to 19 with persistent large anion gap. Patient
   to be started on CVVH today. Serum calcium remains low and replacement
   therapy continues.
   LFT's remain elevated. Lactic acid still at 3.
   Patient requiring large amounts of blood products. Concern for ongoing
   bleeding with coagulopathy. INR better today.
   Tachycardia persists. CVP at high normal level this AM. Fever and
   anemia continue. Fluid shifts seem to contribute to his tachycardia.
   Switch to CVVH may help minimize fluid shifts. Consider increased
   sedation as trial to see if patient is uncomfortable despite absence of
   physical findings to suggest this in setting of hepatic encephalopathy;
   consider boluses before moving patient.
   Diarrhea persists. Treatment started for CDiff pending toxin results.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2137-6-17**] 01:21 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments: Does not meet criteria for RSBI
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2137-06-22 07:06:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
   Pt started on CVVHD yesterday, with appropriate changes in med dosages
   Hypertension/tachycardia:
   Pt became hypertensive to 180s systolic yesterday evening. HR remained
   100-110. Fentanyl boluses given without effect. Fentanyl drip was
   restarted per BMT recs with goal to keep SBP<160 and DBP<95, however,
   even with increment increases to 150mcg/hr but SBP remained 170-180s.
   IV Hydralazine 10 mg x 2 given, but it actually increased SBP to
   180-190s and HR to 120s. Versed drip restarted at 5mg/hr with boluses
   with no effect. SBP occasionally reached 200.
   Nitro gtt was started at 0.5mic/kg/min and increased to 2mic/kg/min
   with no effect on lowering b/p. Labatolol 20mg iv given with good
   results -> Pt settled down at SBP in 140s, HR 90-100. Labatolol 10mg
   repeated this am for turning as pt b/p began to increase to the 170
   Respiratory:
   Pt was satting at 93% on FiO2 of 40% in the setting of high BP. Pt
   noted to be pulling in much larger tidal volumes often. Suctioned thick
   brown blood. ABG: 7.41/25/67/16 on FiO2 of 40%. FiO2 increased to 50%.
   Lastest ABG: 7.36/30/107/18
   Thrombocytopenia:
   Plt count 26 in the evening. Gave 1 bag of plts. Re-check several hours
   later=18. Will give 2 more units of plts.
   Diarrhea:
   Continues. Stopped TF per BMT recs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Valgancyclovir - [**2137-6-20**] 10:34 AM
   Vancomycin - [**2137-6-20**] 10:24 PM
   Caspofungin - [**2137-6-21**] 08:00 AM
   Meropenem - [**2137-6-22**] 01:27 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-6-21**] 08:00 AM
   Fentanyl - [**2137-6-21**] 08:17 PM
   Hydralazine - [**2137-6-21**] 10:05 PM
   Midazolam (Versed) - [**2137-6-21**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-22**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 35.6
C (96
   HR: 89 (89 - 141) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (9 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 6 (6 - 18)mmHg
   Total In:
                                                                  4,233 mL
                                                                    436 mL
   PO:
   TF:
                                                                    800 mL
   IVF:
                                                                  2,207 mL
                                                                    406 mL
   Blood products:
                                                                  1,001 mL
   Total out:
                                                                  3,402 mL
                                                                  2,026 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    831 mL
                                                                 -1,590 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.36/30/107/15/-6
   Ve: 11.8 L/min
   PaO2 / FiO2: 214
   Physical Examination
   Gen: Intubated, sedated. Jaundiced.
   HEENT: PERRL. Gums oozing blood
   Heart: tachycardic, regular rhythm. No murmurs, rubs, gallops
   Lungs: Clear to auscultation anteriorly.
   Abd: soft, slightly distended. + BS
   Ext: 2+ pitting edema
   Labs / Radiology
   18 K/uL
   10.3 g/dL
   101 mg/dL
   2.2 mg/dL
   15 mEq/L
   4.5 mEq/L
   58 mg/dL
   105 mEq/L
   136 mEq/L
   29.3 %
   1.6 K/uL
        [image002.jpg]
                             [**2137-6-21**]  04:17 AM
                             [**2137-6-21**]  09:02 AM
                             [**2137-6-21**]  09:11 AM
                             [**2137-6-21**]  09:29 AM
                             [**2137-6-21**]  01:31 PM
                             [**2137-6-21**]  07:04 PM
                             [**2137-6-21**]  07:20 PM
                             [**2137-6-21**]  11:35 PM
                             [**2137-6-22**]  04:02 AM
                             [**2137-6-22**]  04:28 AM
   WBC
   1.5
   1.5
   1.6
   Hct
   25.9
   25.0
   26.6
   29.3
   Plt
   28
   35
   27
   26
   18
   Cr
   3.0
   2.2
   TCO2
   19
   19
   19
   16
   18
   Glucose
   156
   157
   101
   Other labs: PT / PTT / INR:19.6/53.5/1.8, ALT / AST:67/340, Alk Phos /
   T Bili:107/15.4, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:3240 ng/mL, Fibrinogen:222 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:1560 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   # Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD.
   - Pt required more FiO2 overnight (0.4->0.5) but back to 0.4 this AM.
   Tachycardia likely due to accumulation of blood secretion in airways.
   CXR stable.
   - Optimize vent settings to minimize barotrauma/stretch injury while
   allowing for respiratory compensation of metabolic acidosis. Goal is to
   decrease FiO2 requirement and PEEP.
   # Metabolic acidosis with high lactate, likely multifactorial due to
   increased metabolic rate and liver dysfxn leading to decreased lactate
   clearance; With increased volume of diarrhea, pt may also develop non
   anion gap acidosis, which may make his overall acidosis worse.
   - pt on CVVHD.
   - treat underlying cause of liver dysfunction which is PTLD, this is
   being treated with decreased immunosuppression, steroids, IVIG,
   antivirals
   # Frequent, loose stools; chronic. [**Month (only) 51**] be due to GVHD.
   - Continue Flagyl prophylactically.
   - Tube feeds d/c
d yesterday per heme/onc.
   - Per Heme/Onc, unlikely to be side effect of chemotherapy
   - f/u stool studies, c diff
    # Pancytopenia, with likely intravascular hemolysis and low grade
   bleeding (bleeding gums, pink residuals, guaiac pos stools). Also
   probably side effect of chemotherapy.
   - transfuse if plt<30-40, hct<21
   - haptoglobin level is low yield given liver failure
   - f/u smear
   - Check CBC Q 8 hrs, space out DIC labs Q 12 hrs to reduce over
   phlebotomy
   # Acute renal failure, baseline 1.1, now with new pericardial rub
   likely due to uremia. Anuric. Confirmed dense ATN based on urine
   sediment showing muddy brown casts; also adding to the renal failure is
   tumor lysis (increasing uric acid, LDH, low Ca, high K)
   - To start CVVH today
   - Minimize fluid intake
   - Appreciate Renal recs.
   - BK viral load is pending from [**6-6**], if this comes back elevated
   likely contributing to current state; Re-send BK level per ID
   - Renally dose meds
   - Uric acid 9.8 today, will keep current allopurinol dosage.
   # Liver failure- treat supportively, treat underlying cause
   - Liver enzymes climbing.
   - biospy confirms involvement with lymphoma c/w PTLD
   - hepatically dose meds and avoid toxins
   - transfuse FFP if INR>1.3-1.6 and + active bleeding
   - transfuse Plts if plt<30-40
   - treat underlying PTLD
   # Sinus tachycardia, minimally responsive to Lopressor. Yesterday
   tachycardia was likely due to respiratory distress due to alverolar
   hemorrhage.
   - transfuse plts to minimize the low grade hemorrhage
   - pt is likely still volume overloaded- will continue CVVHD at goal 200
   cc out /hr
   - unknown source of infection. Received Vanco 500 mg after HD yesterday
   - TTE repeated yesterday due to new pericardial rub: no pericardial
   effusion
   - pt has high coagulability due to presence of malignancy- DVTs ruled
   out by LENI, VQ scan [**Location (un) 988**]-mod probability. Will hold off on CTA
   given renal failure
   - anemia likely contributing, will transfuse pRBCs as necessary.
   - no signs of ischemia on ECG, no chest pain prior to intubation
   # Lymphoproliferative dysplasia
   - Pt to receive Valcade today per Heme/onc
   - continue sirolimus 2mg PO daily
   - Decadron 10mg IV daily
   - continue valganciclovir 450mg PO twice a week
   - appreciate BMT recs
   # Blood sugar in the setting of steroid administration; labile FS.
   - Q6 hr FS, on ISS.
   # FEN: tube feeds d/c
d yesterday. Will monitor stool output. Will
   consider re-starting tube feeds (possibly a different one) once
   diarrhea improves.
   - electrolytes: Ca persistantly low. Likely citrate in blood products
   is binding Ca. Pt on Ca repletion sliding scale. Monitor Q4-6.
   # Access:
   - Hickman line placed [**6-6**]
   - arterial line placed [**6-16**]
   - HD line placed [**6-16**]
   # PPx: d/c pneumoboots as it may cause trauma and result in petechiae;
   continue PPI
   # Code:  FULL
   # Dispo:  ICU; will discuss with heme/onc regarding goals of therapy.
    # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-22 08:59:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55M with h/o MM s/p stem cell ca c/b ptld, liver failure
   24 Hour Events:
   #started on cvvh with fewer fluid shifts
   #sedation held during the day
   #htn and tachy in evening, s/p iv hydral without effect; briefly on
   nitro gtt; and labetalol
   #restarted on fentanyl gtt for better bp control (although no other
   signs of agitation)
   #restarted versed gtt brifly
   #bp up again with turning this am
   #sats decreased again yesterday, FiO2 back to 50%
   #continued to require products
   #persistent diarrhea; possible GVHD per onc, tube feeds held
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Valgancyclovir - [**2137-6-20**] 10:34 AM
   Vancomycin - [**2137-6-20**] 10:24 PM
   Caspofungin - [**2137-6-21**] 08:00 AM
   Meropenem - [**2137-6-22**] 01:27 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2137-6-21**] 08:17 PM
   Hydralazine - [**2137-6-21**] 10:05 PM
   Midazolam (Versed) - [**2137-6-21**] 10:32 PM
   Other medications:
   folic acid, pantopr, sirolimus, allopur, dexa, riss, midaz gtt, flagyl,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: Conjunctival edema
   Ear, Nose, Throat: Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2137-6-22**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.4
C (97.5
   HR: 90 (86 - 127) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (9 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 204 (6 - 204)mmHg
   Total In:
                                                                  4,233 mL
                                                                    483 mL
   PO:
   TF:
                                                                    800 mL
   IVF:
                                                                  2,207 mL
                                                                    453 mL
   Blood products:
                                                                  1,001 mL
   Total out:
                                                                  3,402 mL
                                                                  2,026 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    831 mL
                                                                 -1,543 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.36/30/107/15/-6 on 50%
   Ve: 12.4 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese, No(t)
   Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), distal hs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   [**Last Name (un) 1023**] and bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   18 K/uL
   101 mg/dL
   2.2 mg/dL
   15 mEq/L
   4.5 mEq/L
   58 mg/dL
   105 mEq/L
   136 mEq/L
   29.3 %
   1.6 K/uL
        [image002.jpg]
                             [**2137-6-21**]  04:17 AM
                             [**2137-6-21**]  09:02 AM
                             [**2137-6-21**]  09:11 AM
                             [**2137-6-21**]  09:29 AM
                             [**2137-6-21**]  01:31 PM
                             [**2137-6-21**]  07:04 PM
                             [**2137-6-21**]  07:20 PM
                             [**2137-6-21**]  11:35 PM
                             [**2137-6-22**]  04:02 AM
                             [**2137-6-22**]  04:28 AM
   WBC
   1.5
   1.5
   1.6
   Hct
   25.9
   25.0
   26.6
   29.3
   Plt
   28
   35
   27
   26
   18
   Cr
   3.0
   2.2
   TCO2
   19
   19
   19
   16
   18
   Glucose
   156
   157
   101
   Other labs: PT / PTT / INR:19.6/53.5/1.8, ALT / AST:67/340, Alk Phos /
   T Bili:107/15.4, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:3240 ng/mL, Fibrinogen:222 mg/dL, Lactic
   Acid:3.3 mmol/L, Albumin:2.0 g/dL, LDH:1560 IU/L, Ca++:7.0 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Imaging: cxr: hickman in svc; ett position ok, no new infiltrates
   Microbiology: all cx neg to date; c diff neg
   Assessment and Plan
   1. fevers
   2. resp failure
   3. acidemia / metabolic acidosis
   4. liver failure
   5. tachycardia
   6. pancytopenia
   7. PTLD
   8. diarrhea
   59M with multiple myeloma s/p stem cell transplant ~60 days ago, c/b
   ptld in liver and lungs, now c/b respiratory failure due to severe
   lactic acidosis and fluid overload, and persistent fevers that are now
   resolving. Lactic acid has plateaued at 3-3.5; will repeat today.
   Acid-base status shows combined anion gap and nongap acidosis. The
   latter is likely due to his diarrhea. Serum bicarb is a bit lower in
   the past two days. It will be difficult to extubate him with this
   ongoing acidemia; if unable to correct this with dialysis, may need to
   give additional bicarb. Continue vent at assist control for now.
   Patient
s BP still rises with turning, suggestive of ongoing
   pain/discomfort. He is receiving fentanyl and versed.
   -decrease O2
   -more chemo today
   -support
   -cont flagyl until 3 neg cdiff
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-06-23 07:29:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   BMT recommends we continue to hold tube feeds for now.  Versed was
   discontinued yesturday and Fentanyl weaned down from 150 to 75mcg/hr
   this morning. Patient still on PEEP 10 and appears unable for
   extubation so a.m. RSBI deferred today.
   Per renal recs, the patient was switched from Valganciclovir to
   Ganciclovir yesturday and viral cultures for stool sent off. He was
   given full gram Vanco yesturday and will decrease to 500mg daily now.
   Meropenem was adjusted to 500mg IV BID  as well.
   Overnight, vent settings unchanged, still rhonchi noted in upper right
   lobe and overnight  oxygen saturations remained 96-97%. No respiratory
   distress noted.
   Diarrhea is improving as it has decreased in frequency.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Valgancyclovir - [**2137-6-20**] 10:34 AM
   Caspofungin - [**2137-6-22**] 09:00 AM
   Vancomycin - [**2137-6-22**] 05:31 PM
   Gancyclovir - [**2137-6-22**] 10:00 PM
   Meropenem - [**2137-6-23**] 12:16 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-6-22**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-23**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 35.8
C (96.5
   HR: 101 (90 - 101) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 24 (6 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 5 (5 - 204)mmHg
   Total In:
                                                                  3,664 mL
                                                                    558 mL
   PO:
   TF:
   IVF:
                                                                  3,044 mL
                                                                    528 mL
   Blood products:
                                                                    530 mL
   Total out:
                                                                  8,750 mL
                                                                  1,301 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,086 mL
                                                                   -742 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.35/29/94.[**Numeric Identifier 126**]/15/-7
   Ve: 12.1 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Gen: Sedated and intubated on vent, skin remains jaundiced, has crusted
   blood noted at nares/corners lips
   HEENT: PERRL. EOM unable to be assessed, gums with drying blood noted
   Heart:  S1/S2 appreciated, tachycardic, no overt murmurs, rubs, gallops
   Lungs: Clear to auscultation anteriorly, posterior exam deferred
   Abd: soft, slightly distended. + BS throughout
   Ext: 2+ pitting edema, 2 + pedal pulses
   Labs / Radiology
   20 K/uL
   10.3 g/dL
   94 mg/dL
   1.2 mg/dL
   15 mEq/L
   4.6 mEq/L
   41 mg/dL
   105 mEq/L
   133 mEq/L
   29.0 %
   1.1 K/uL
        [image002.jpg]
   [**2137-6-18**] : blood cx negative to date, [**6-18**] final urine cx negative
   [**2137-6-22**]  C.diff study negative and [**6-22**] Ovum and Parasite of Stool
   pending with exception of negative cryto/giardia noted
   [**2137-6-23**]  4am ABG: 7.35/29/94/17  indicative of metabolic acidosis, uric
   acid pending
   [**2137-6-23**] Vanco level 22.7
                             [**2137-6-21**]  07:20 PM
                             [**2137-6-21**]  11:35 PM
                             [**2137-6-22**]  04:02 AM
                             [**2137-6-22**]  04:28 AM
                             [**2137-6-22**]  09:52 AM
                             [**2137-6-22**]  12:24 PM
                             [**2137-6-22**]  12:43 PM
                             [**2137-6-22**]  08:52 PM
                             [**2137-6-23**]  03:58 AM
                             [**2137-6-23**]  04:26 AM
   WBC
   1.6
   1.4
   1.1
   Hct
   29.3
   26.9
   29.0
   Plt
   18
   52
   20
   Cr
   2.2
   1.6
   1.2
   TCO2
   19
   16
   18
   16
   17
   16
   17
   Glucose
   101
   90
   94
   Other labs: PT / PTT / INR:22.0/58.2/2.1, ALT / AST:93/408, Alk Phos /
   T Bili:103/15.6, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:247 mg/dL, Lactic
   Acid:2.8 mmol/L, Albumin:2.2 g/dL, LDH:1397 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan:
   Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD now suspected.
   - Pt at FiO2 0.4 for 48hrs and same PEEP 10 on A/C mode.  HR 90-100
   range now and tachycardia improved. He has been off of Versed now and
   weaning Fentanyl now.  CXR stable .
   - Optimize vent settings to minimize barotrauma/stretch injury while
   allowing for respiratory compensation of metabolic acidosis. Goal is to
   attempt CPAP / Pressure Support trial today .
   # Metabolic acidosis with high lactate, likely multifactorial due to
   increased metabolic rate and liver dysfxn leading to decreased lactate
   clearance; With increased volume of diarrhea, pt may also develop non
   anion gap acidosis, which may make his overall acidosis worse.
   - pt on CVVH.
   - treat underlying cause of liver dysfunction which is PTLD, this is
   being treated with decreased immunosuppression, steroids, IVIG,
   antivirals
   # Frequent, loose stools; chronic. [**Month (only) 51**] be due to GVHD.  Frequency has
   been improving per RNs.
   - Continue Flagyl prophylactically.
   - Tube feeds d/c
d 8/1 per heme/onc
will consider restart later today,
   pending Heme/Onc approval .
   - Per Heme/Onc, unlikely to be side effect of chemotherapy
   - f/u remaining  stool studies, C-diff negative as noted above
    # Pancytopenia, with likely intravascular hemolysis and low grade
   bleeding (bleeding gums, pink residuals, guaiac pos stools). Also
   probably side effect of chemotherapy.
   - transfuse if plt<30-40, hct<21.   Plts at 20 today so will give 2
   bags Plts this morning
   - haptoglobin level is low yield given liver failure
   - - Check CBC/Plts/Coags Q 8 hrs, space out additional DIC labs
   check daily now to reduce over phlebotomy and given repetitive normal
   fibrinogen levels
   # Acute renal failure, baseline 1.1, now with new pericardial rub
   likely due to uremia. Anuric. Confirmed dense ATN based on urine
   sediment showing muddy brown casts; also adding to the renal failure is
   tumor lysis (increasing uric acid, LDH, low Ca, high K)
   - Will con
t  CVVH today
and Cr 1.2 on [**6-23**].  Will adjust today
s CVVH
   goal to -100cc/hr to get additional fluid off of patient as we approach
   hopeful PS trial and ultimate extubation goal
   - Minimize fluid intake
   - Appreciate Renal recs.
   - BK viral load is pending from [**6-6**], if this comes back elevated
   likely contributing to current state; Re-send BK level per ID
   - Renally dose meds
   - Uric acid much improved, will keep current allopurinol dosage, CVVH
   helping levels to decrease as well .
   # Liver failure- treat supportively, treat underlying cause
   - Liver enzymes still elevated
   - biospy confirms involvement with lymphoma c/w PTLD
   - hepatically dose meds and avoid toxins
   - transfuse FFP if INR>1.3-1.6 and + active bleeding
   -will con
t  transfuse Plts if plt<30-40
   - treat underlying PTLD
   # Sinus tachycardia, minimally responsive to Lopressor.
   - pt is likely still volume overloaded- will continue CVVHD at goal 100
   cc out /hr today ([**6-23**])
   - still unknown source of infection ?,  will con
t  Vanco 500 mg daily
   - TTE repeated for questionable pericardial rub and [**Last Name (un) 1027**] no
   pericardial effusion
   - pt has high coagulability due to presence of malignancy- DVTs ruled
   out by LENI, VQ scan [**Location (un) 988**]-mod probability. Will hold off on CTA
   given renal failure
   - anemia likely contributing, will transfuse pRBCs as necessary.
   - no signs of ischemia on ECG, no chest pain prior to intubation
   # Lymphoproliferative dysplasia
   - Pt to receive Valcade today per Heme/onc
   - continue sirolimus 2mg PO daily
   - Decadron 10mg IV daily
   - continue ganciclovir Rx
   - appreciate BMT recs
   # Blood sugar in the setting of Dexamethasone administration; labile
   FS.
   - Q6 hr FS, on ISS.
   # FEN: tube feeds d/c
d yesterday. Will monitor stool output. Will
   consider re-starting tube feeds (possibly a different one) once
   diarrhea improves.
   - electrolytes: Ca persistantly low. Likely citrate in blood products
   is binding Ca. Pt on Ca repletion sliding scale. Monitor Q8 hours for
   now .
   # Access:
   - Hickman line placed [**6-6**]
   - arterial line placed [**6-16**]
   - HD line placed [**6-16**]
   # PPx: d/c pneumoboots as it may cause trauma and result in petechiae;
   continue PPI
   # Code:  FULL
   # Dispo:  ICU; will discuss with heme/onc regarding goals of therapy.
    # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-23 10:41:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59M with mm, s/p stem cell transplant, complicated by PTLD, and
   respiratory failure due to metabolic acidosis and fluid overload:
   24 Hour Events:
   *versed stopped
   *tube feeds still held given concern for gvhd
   *diarrhea improving; c diff negative thus far
   *vent setting unchanged, sats stable
   *neg 5 liters yesterday
   *afebrile; lactate coming down
   * continues on CVVH
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Valgancyclovir - [**2137-6-20**] 10:34 AM
   Gancyclovir - [**2137-6-22**] 10:00 PM
   Meropenem - [**2137-6-23**] 12:16 AM
   Vancomycin - [**2137-6-23**] 07:30 AM
   Caspofungin - [**2137-6-23**] 08:30 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   fa, caspo, metoprl, sirolimus, calcium, dexa, riss, flagyl, fentanyl,
   vanco, gancyclovir, merop,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   Diarrhea, No(t) Constipation, less diarrhea
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2137-6-23**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 35.8
C (96.4
   HR: 93 (90 - 101) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (6 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (5 - 16)mmHg
   Total In:
                                                                  3,664 mL
                                                                    967 mL
   PO:
   TF:
   IVF:
                                                                  3,044 mL
                                                                    937 mL
   Blood products:
                                                                    530 mL
   Total out:
                                                                  8,750 mL
                                                                  1,583 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -5,086 mL
                                                                   -616 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.35/29/94.[**Numeric Identifier 126**]/15/-7
   Ve: 14.5 L/min
   PaO2 / FiO2: 235
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterirorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing,
   decreased
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   20 K/uL
   94 mg/dL
   1.2 mg/dL
   15 mEq/L
   4.6 mEq/L
   41 mg/dL
   105 mEq/L
   133 mEq/L
   29.0 %
   1.1 K/uL
        [image002.jpg]
                             [**2137-6-21**]  07:20 PM
                             [**2137-6-21**]  11:35 PM
                             [**2137-6-22**]  04:02 AM
                             [**2137-6-22**]  04:28 AM
                             [**2137-6-22**]  09:52 AM
                             [**2137-6-22**]  12:24 PM
                             [**2137-6-22**]  12:43 PM
                             [**2137-6-22**]  08:52 PM
                             [**2137-6-23**]  03:58 AM
                             [**2137-6-23**]  04:26 AM
   WBC
   1.6
   1.4
   1.1
   Hct
   29.3
   26.9
   29.0
   Plt
   18
   52
   20
   Cr
   2.2
   1.6
   1.2
   TCO2
   19
   16
   18
   16
   17
   16
   17
   Glucose
   101
   90
   94
   Other labs: PT / PTT / INR:22.0/58.2/2.1, ALT / AST:93/408, Alk Phos /
   T Bili:103/15.6, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:247 mg/dL, Lactic
   Acid:2.8 mmol/L, Albumin:2.2 g/dL, LDH:1397 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Imaging: cxr: better volume, less opacity at right base and left base
   (both bases not visualized)
   Microbiology: ngtd
   Assessment and Plan
   1. resp failure
   2. ptld, mm
   3. diarrhea - improved
   4. liver failure
   5. fluid overload - improved
   6. renal failure
   59F multiple myeloma s/p stem cell transplant c/b ptld in the lungs and
   the liver, as well as fluid overload. In some ways, many of the
   parameters that brought the patient to the icu have improved. Patient's
   gas exchange has improved; lactate has decreased dramatically. With
   CVVH, significant amount of fluid has been removed. Tachycardia and
   hypertension is well-controlled on current regimen; calcium level is
   better. Lactate coming down, but patient still has anion gap acidosis,
   presumably due to his renal failure. This is necessitating a minute
   ventilation above 10L/min; if we can get bicarb to 20-22, likely will
   only need PaCO2 of 35 and minute ventilation < 10L/min.
   On the other hand, liver function has not improved, with increasing INR
   and worsening LFTs (picture complicated by possible ongoing hemolysis);
   also pt continues to require significant amount of blood products.
   For today, will decrease his PEEP and try pressure support to see
   whether patient can ventilate spontaneously adequately. Mental status
   may soon become the limiting factor to extubation. Will discuss with
   renal changing the CVVH bath to get serum biarb higher; he is losing
   bicarb in diarrhea.
   Patient's diarrhea has improved with holding tube feeds and initiation
   of flagyl. Will continue flagyl for now, send additional c.diff toxins,
   and will discuss with heme-onc when feeds should be restarted.
   To continue to assess mental status now that patient off versed for
   several days; will check utox for benzo, although versed does have
   active metabolites that may not be picked up in the urine tox screen.
   Will continue fentanyl gtt for now.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None, heme-onc wants to avoid
   pneumoboots)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   [**First Name11 (Name Pattern1) **] [**Last Name (NamePattern4) 980**], MD

2137-06-24 07:09:00 Physician Resident Progress Note
Chief Complaint: Post transplant lymphoproliferative dysplasia
   Liver failure, renal failure, respiratory failure
   24 Hour Events:
   S/p trial of CPAP/PS but pt had no spontaneous breathing- pt remains on
   vent support with AC 600x20, PEEP 5, FiO2 40
   last ABG: 7.4/ 27/96/18 at 6am
   Received 3 units plts, 1 FFP over the course of day yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2137-6-23**] 07:30 AM
   Caspofungin - [**2137-6-23**] 08:30 AM
   Gancyclovir - [**2137-6-23**] 09:30 PM
   Meropenem - [**2137-6-23**] 11:25 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-6-23**] 08:00 AM
   Fentanyl - [**2137-6-23**] 09:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-24**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.1
C (96.9
   HR: 97 (91 - 105) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 10 (5 - 10)mmHg
   Total In:
                                                                  3,468 mL
                                                                    454 mL
   PO:
   TF:
   IVF:
                                                                  2,312 mL
                                                                    389 mL
   Blood products:
                                                                    996 mL
   Total out:
                                                                  3,796 mL
                                                                  1,136 mL
   Urine:
                                                                      7 mL
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -328 mL
                                                                   -682 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: 7.41/27/95.[**Numeric Identifier 143**]/16/-5
   Ve: 12.4 L/min
   PaO2 / FiO2: 240
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   34 K/uL
   9.4 g/dL
   86 mg/dL
   1.2 mg/dL
   16 mEq/L
   4.6 mEq/L
   33 mg/dL
   104 mEq/L
   131 mEq/L
   27.2 %
   0.7 K/uL
        [image002.jpg]
                             [**2137-6-22**]  08:52 PM
                             [**2137-6-23**]  03:58 AM
                             [**2137-6-23**]  04:26 AM
                             [**2137-6-23**]  12:50 PM
                             [**2137-6-23**]  01:59 PM
                             [**2137-6-23**]  06:00 PM
                             [**2137-6-23**]  06:04 PM
                             [**2137-6-23**]  09:42 PM
                             [**2137-6-24**]  06:00 AM
                             [**2137-6-24**]  06:03 AM
   WBC
   1.1
   0.7
   Hct
   29.0
   27.1
   27.2
   Plt
   20
   48
   34
   56
   34
   Cr
   1.2
   TCO2
   16
   17
   15
   17
   17
   18
   Glucose
   94
   107
   86
   Other labs: PT / PTT / INR:21.3/66.0/2.0, ALT / AST:120/544, Alk Phos /
   T Bili:108/14.8, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:305 mg/dL, Lactic
   Acid:2.8 mmol/L, Albumin:2.3 g/dL, LDH:1397 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Microbiology: Cryptosporidium/Giardia (DFA) (Final [**2137-6-21**]):
         NO CRYPTOSPORIDIUM OR GIARDIA SEEN.
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2137-6-22**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   [**2137-6-24**] CMV viral load pending
   [**2137-6-24**] stool viral culture pending
   [**2137-6-18**] BCx x 3 pending
   [**2137-6-18**] UCx neg
   Assessment and Plan
   # Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD now suspected.
   - Pt at FiO2 0.4 and PEEP 5 on A/C mode.  HR 90-100 range now and
   tachycardia improved. He has been off of Versed now and weaning
   Fentanyl now.  CXR stable .
   - Optimize vent settings to minimize barotrauma/stretch injury while
   allowing for respiratory compensation of metabolic acidosis.
   # Metabolic acidosis with high lactate, likely multifactorial due to
   increased metabolic rate and liver dysfxn leading to decreased lactate
   clearance; With increased volume of diarrhea, pt may also develop non
   anion gap acidosis, which may make his overall acidosis worse.
   - pt on CVVH.
   - treat underlying cause of liver dysfunction which is PTLD, this is
   being treated with decreased immunosuppression, steroids, IVIG,
   antivirals
   # Frequent, loose stools; chronic. [**Month (only) 51**] be due to GVHD.  Frequency has
   been improving per RNs.
   - Continue Flagyl prophylactically.
   - Tube feeds d/c
d 8/1 per heme/onc
will consider restart later today,
   pending Heme/Onc approval .
   - Per Heme/Onc, unlikely to be side effect of chemotherapy
   - f/u remaining  stool studies, C-diff negative as noted above
    # Pancytopenia, with likely intravascular hemolysis and low grade
   bleeding (bleeding gums, pink residuals, guaiac pos stools). Also
   probably side effect of chemotherapy.
   - transfuse if plt<30-40, hct<21.   Plts at 20 today so will give 2
   bags Plts this morning
   - haptoglobin level is low yield given liver failure
   - Check CBC/Plts/Coags Q 8 hrs, space out additional DIC labs
   check daily now to reduce over phlebotomy and given repetitive normal
   fibrinogen levels
   # Acute renal failure, baseline 1.1, now with new pericardial rub
   likely due to uremia. Anuric. Confirmed dense ATN based on urine
   sediment showing muddy brown casts; also adding to the renal failure is
   tumor lysis (increasing uric acid, LDH, low Ca, high K)
   - Will con
t  CVVH today
and Cr 1.2 on [**6-23**].  Will adjust today
s CVVH
   goal to -100cc/hr to get additional fluid off of patient as we approach
   hopeful PS trial and ultimate extubation goal
   - Minimize fluid intake
   - Appreciate Renal recs.
   - BK viral load is pending from [**6-6**], if this comes back elevated
   likely contributing to current state; Re-send BK level per ID
   - Renally dose meds
   - Uric acid much improved, will keep current allopurinol dosage, CVVH
   helping levels to decrease as well .
   # Liver failure- treat supportively, treat underlying cause
   - Liver enzymes still elevated
   - biospy confirms involvement with lymphoma c/w PTLD
   - hepatically dose meds and avoid toxins
   - transfuse FFP if INR>1.3-1.6 and + active bleeding
   -will con
t  transfuse Plts if plt<30-40
   - treat underlying PTLD
   # Sinus tachycardia, minimally responsive to Lopressor.
   - pt is likely still volume overloaded- will continue CVVHD at goal 100
   cc out /hr today ([**6-23**])
   - still unknown source of infection ?,  will con
t  Vanco 500 mg daily
   - TTE repeated for questionable pericardial rub and [**Last Name (un) 1027**] no
   pericardial effusion
   - pt has high coagulability due to presence of malignancy- DVTs ruled
   out by LENI, VQ scan [**Location (un) 988**]-mod probability. Will hold off on CTA
   given renal failure
   - anemia likely contributing, will transfuse pRBCs as necessary.
   - no signs of ischemia on ECG, no chest pain prior to intubation
   # Lymphoproliferative dysplasia
   - Pt to receive Valcade today per Heme/onc
   - continue sirolimus 2mg PO daily
   - Decadron 10mg IV daily
   - continue ganciclovir Rx
   - appreciate BMT recs
   # Blood sugar in the setting of Dexamethasone administration; labile
   FS.
   - Q6 hr FS, on ISS.
   # FEN: tube feeds d/c
d yesterday. Will monitor stool output. Will
   consider re-starting tube feeds (possibly a different one) once
   diarrhea improves.
   - electrolytes: Ca persistantly low. Likely citrate in blood products
   is binding Ca. Pt on Ca repletion sliding scale. Monitor Q8 hours for
   now .
   # Access:
   - Hickman line placed [**6-6**]
   - arterial line placed [**6-16**]
   - HD line placed [**6-16**]
   # PPx: d/c pneumoboots as it may cause trauma and result in petechiae;
   continue PPI
   # Code:  FULL
   # Dispo:  ICU; will discuss with heme/onc regarding goals of therapy.
    # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-24 11:31:00 Physician Attending Progress Note
Chief Complaint: Lympohoma, respiratory failure, acute renal failure,
   pancytopenia, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Attempted on PSV yesterday, but patient was still too sedated to
   support breathing.
   Diarrhea improved with holding of tube feedings.
   Dialysate changed to try to increase serum bicarbonate.
   Remains sedated despite removal of versed. Still requiring fentanyl
   periodically.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2137-6-23**] 09:30 PM
   Meropenem - [**2137-6-23**] 11:25 PM
   Caspofungin - [**2137-6-24**] 08:05 AM
   Vancomycin - [**2137-6-24**] 08:32 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Fentanyl - [**2137-6-23**] 09:53 PM
   Pantoprazole (Protonix) - [**2137-6-24**] 08:10 AM
   Other medications:
   Folic acid, allopurinol, dexamethasone, insulin, flagyl, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-24**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 100 (91 - 105) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 20 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
   CVP: 7 (5 - 14)mmHg
   Total In:
                                                                  3,469 mL
                                                                  1,066 mL
   PO:
   TF:
   IVF:
                                                                  2,313 mL
                                                                    941 mL
   Blood products:
                                                                    996 mL
   Total out:
                                                                  3,796 mL
                                                                  1,729 mL
   Urine:
                                                                      7 mL
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -327 mL
                                                                   -663 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 194
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 97%
   ABG: 7.41/27/95.[**Numeric Identifier 143**]/16/-5
   Ve: 14.1 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished, No(t) Overweight / Obese, No(t)
   Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Distant, No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : on right anterior and lateral, Crackles : On left
   lateral chest, No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: ,
   No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, Few bowel sounds
   Extremities: Right: 2+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   34 K/uL
   86 mg/dL
   1.0 mg/dL
   16 mEq/L
   4.6 mEq/L
   33 mg/dL
   104 mEq/L
   131 mEq/L
   27.2 %
   0.7 K/uL
        [image002.jpg]
                             [**2137-6-22**]  08:52 PM
                             [**2137-6-23**]  03:58 AM
                             [**2137-6-23**]  04:26 AM
                             [**2137-6-23**]  12:50 PM
                             [**2137-6-23**]  01:59 PM
                             [**2137-6-23**]  06:00 PM
                             [**2137-6-23**]  06:04 PM
                             [**2137-6-23**]  09:42 PM
                             [**2137-6-24**]  06:00 AM
                             [**2137-6-24**]  06:03 AM
   WBC
   1.1
   0.7
   Hct
   29.0
   27.1
   27.2
   Plt
   20
   48
   34
   56
   34
   Cr
   1.2
   1.0
   TCO2
   16
   17
   15
   17
   17
   18
   Glucose
   94
   107
   86
   Other labs: PT / PTT / INR:21.3/66.0/2.0, ALT / AST:120/544, Alk Phos /
   T Bili:108/14.8, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:305 mg/dL, Lactic
   Acid:2.8 mmol/L, Albumin:2.3 g/dL, LDH:1780 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: C diff negative
   Imaging: CXR: slight increase in infiltrate at right base. Stable
   infiltrate/effusion on left.
   Assessment and Plan
   1) Respiratory failure
   2) Acute renal failure
   3) metabolic acidosis
   4) diarrhea
   5) liver failure
   6) pancytopenia
   Patient switched to PSV on rounds and has VT 700-800 with adequate
   minute ventilation of approximately 9 L/min. Based on last ABG, this is
   a more appropriate minute ventilation for him, and may allow him to be
   extubated in next few days if mental status improves. Oxygenation good
   on FIO2=0.4.  Being suctioned for some bloody secretions. Infiltrate on
   CXR may represent blood or infection. Continues on antibiotics.
   Anion gap acidosis has largely resolved. Now has a non-gap acidosis,
   probably from diarrhea. Patient getting more bicarb in CVVH.
   Improvement in diarrhea with cessation of feeding consistent with
   malabsorption, possibly from GVH disease. C Diff testing is negative.
   Will try to restart tube feeds today. If diarrhea worsens, switch to
   TPN.
   Hct stable. No need for transfusion now.
   LFT's remain elevated. INR at 2.
   ICU Care
   Nutrition: restart tube feeds
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: Heme-onc did not want patient to have pneumoboots because of
   trauma to legs.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2137-06-25 05:21:00 Physician Resident Progress Note
Chief Complaint: PTLD- liver, renal, resp failure
   24 Hour Events:
   Pt was placed on CPAP/PS during AM rounds yesterday, [**8-25**] with FiO2 of
   0.4. Minute ventilation was ~9 L most of the day however just after pt
   was cleaned and turned, pt became hypertensive to systolic 190s and was
   pulling in a lot of tidal volume (minute vent of 12 L). Pt was bolused
   with Fentanyl with minimal effect. BP finally came down to 130-140s
   systolic with suctioning of bloody secretions and Labetalol 40 mg IV
   total. Last ABG: 7.43/33/114/23 at 5:20 AM. Given this ABG, CPAP/PS
   setting were change to 5/5.
   Tube feeds were re-started yesterday and pt had melena x 2, one last
   night, another this AM. Tube feeds were d/c
d after the first melena.
   Hct dropped slightly, but stable.
   Pt having hiccup-like abdominal contractions, and was given Zofran to
   good effect.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-24**] 08:05 AM
   Vancomycin - [**2137-6-24**] 08:32 AM
   Gancyclovir - [**2137-6-24**] 10:45 AM
   Meropenem - [**2137-6-24**] 12:06 PM
   Aztreonam - [**2137-6-24**] 11:54 PM
   Metronidazole - [**2137-6-24**] 11:54 PM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-6-24**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-25**] 05:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.6
C (96
   HR: 83 (83 - 111) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 11 (9 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 6 (4 - 14)mmHg
   Total In:
                                                                  2,890 mL
                                                                    447 mL
   PO:
   TF:
                                                                     42 mL
   IVF:
                                                                  2,192 mL
                                                                    447 mL
   Blood products:
                                                                    530 mL
   Total out:
                                                                  4,718 mL
                                                                    759 mL
   Urine:
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,828 mL
                                                                   -312 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 596 (596 - 885) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 16 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.43/31/87.[**Numeric Identifier 181**]/21/-2
   Ve: 8.5 L/min
   PaO2 / FiO2: 220
   Physical Examination
   Exam: Jaundicced.
   Heart: nl S1, S2. no murmurs
   Lungs: diminished breath sounds, but clear to auscultation
   Abd: soft, NTND. +BS
   Labs / Radiology
   31 K/uL
   8.7 g/dL
   108 mg/dL
   1.0 mg/dL
   21 mEq/L
   4.3 mEq/L
   29 mg/dL
   102 mEq/L
   134 mEq/L
   25.0 %
   0.4 K/uL
        [image002.jpg]
                             [**2137-6-23**]  06:00 PM
                             [**2137-6-23**]  06:04 PM
                             [**2137-6-23**]  09:42 PM
                             [**2137-6-24**]  06:00 AM
                             [**2137-6-24**]  06:03 AM
                             [**2137-6-24**]  11:32 AM
                             [**2137-6-24**]  12:27 PM
                             [**2137-6-24**]  06:06 PM
                             [**2137-6-24**]  06:15 PM
                             [**2137-6-24**]  09:34 PM
   WBC
   0.7
   0.4
   Hct
   27.1
   27.2
   26.0
   25.0
   Plt
   34
   56
   34
   28
   31
   Cr
   1.0
   1.1
   1.0
   TCO2
   17
   17
   18
   19
   21
   Glucose
   107
   86
   80
   108
   Other labs: PT / PTT / INR:19.9/72.0/1.9, ALT / AST:120/544, Alk Phos /
   T Bili:108/14.8, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:305 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:1780 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   # Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD now suspected. Per nurse, bloody secretions decreased
   per nurse.
   - CPAP/PS settings changed to 0/0 during rounds this AM. Pt tolerating
   it well for now. Will monitor closely for any signs of distress
   (tachycardia, HTN, desats). Re-check ABG
   - Pt has been off of versed and fentanyl drips (was given one bolus of
   fentanyl last night). Pt still not waking up- will check U tox and CT
   of head.
   - Plan for extubation soon.
   # Metabolic acidosis, likely multifactorial due to increased metabolic
   rate and liver dysfxn leading to decreased lactate clearance; With
   diarrhea, pt may also develop non anion gap acidosis, which may make
   his overall acidosis worse.  Pt now also has resp alkalosis due to high
   Vt that pt draws; uncertain whether this is due to anxiety or
   stimulation of receptors in lungs or vasculature
   - Met acidosis much improved with CVVH
   - treat underlying cause of liver dysfunction (PTLD)
   # Frequent, loose stools; chronic. [**Month (only) 51**] be due to GVHD. Now with melena
   since re-starting tube feeds yesterday.
   - Will d/w Heme/onc whether to try another bland of TF vs TPN. TPN may
   be more practical if pt is extubated.
    # Pancytopenia, with likely intravascular hemolysis and low grade
   bleeding (bleeding gums, pink residuals, guaiac pos stools, melena).
   Also probably side effect of chemotherapy.
   - transfuse if plt<30, hct<21.
   - haptoglobin level is low yield given liver failure
   - Check CBC/Plts/Coags Q 6 hrs with CVVH labs, space out additional DIC
   labs
can check daily now to reduce over phlebotomy and given
   repetitive normal fibrinogen levels
   # Acute renal failure, baseline 1.1, Cr=1 today, much improved with
   CVVH. Anuric. Confirmed dense ATN based on urine sediment showing muddy
   brown casts; also adding to the renal failure is tumor lysis (high uric
   acid, high LDH, low Ca, high K)
   - D/C CVVH and switch over to intermittent HD starting tomorrow per
   renal; Ins/Outs goal = even as pt
s CVP is low-nl and pt appears
   euvolemic on clinical exam.
   - Appreciate Renal recs.
   - F/u BK viral load levels pending from [**6-6**] and [**2137-6-22**].
   - Renally dose meds
   - Uric acid much improved, will keep current allopurinol dosage
   - Will need to carefully monitor fluid status given the number of
   antibiotics being given to patient with IVF. Will d/w Heme/Onc
   # Liver failure likely due to PTLD (biospy confirms involvement with
   lymphoma c/w PTLD)
   - Liver enzymes continue to increase, with signs that chemotherapy is
   not improving liver function; treat supportively, treat underlying
   cause
   - hepatically dose meds and avoid toxins
   - transfuse FFP if INR>1.3-1.6 and + active bleeding
   - will continue  transfuse Plts if plt<30-40
   - treat underlying PTLD
   - f/u CT abdomen, pelvis once done
   # Sinus tachycardia, with intermittent episodes of hypertension.
   - still unknown source of infection ?,  will con
t  Vanco 500 mg daily
   with vanco level checks daily; Also continue Micafungin, Flagyl, and
   Aztreonam.
   - TTE show no pericardial effusion
   - pt has high coagulability due to presence of malignancy- DVTs ruled
   out by LENI, VQ scan [**Location (un) 988**]-mod probability. Will hold off on CTA
   given renal failure
   - anemia likely contributing, will transfuse pRBCs as necessary.
   - no signs of ischemia on ECG, no chest pain prior to intubation
   # Lymphoproliferative dysplasia
   - continue sirolimus 2mg PO daily
   - Decadron 2mg [**Hospital1 7**]
   - appreciate BMT recs
   # Blood sugar in the setting of Dexamethasone administration; labile
   FS.
   - Q6 hr FS, on ISS.
   # FEN: will d/w Heme/onc regarding re-start of tube feeds vs TPN
   - electrolytes: Ca persistantly low. Likely citrate in blood products
   is binding Ca. Pt on Ca repletion sliding scale. Monitor Q8 hours for
   now .
   # Access:
   - Hickman line placed [**6-6**]
   - arterial line placed [**6-16**]
   - HD line placed [**6-16**]
   # PPx: intermittent pneumoboots given low plt (per heme/onc) ; continue
   PPI
   # Code:  FULL
   # Dispo:  ICU; will discuss with heme/onc regarding goals of therapy.
    # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-25 11:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, lymphoma, acute renal failure,
   pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient on PSV throughout the day yesterday. Patient became
   hypertensive yesterday evening, VE went up to 12 L/min from 9 L/min.
   Patient give fentanyl. Patient was suctioned for bloody secretions.
   Labetalol administered IV for the hypertension (total 40 mg) with
   improved BP.
   This AM on PSV 5/5.
   Tube feeds restarted yesterday. Had two episodes of melena. Hct stable.
   Adjustments made in antibiiotics because of concerns of drug induced
   liver problems and [**Name2 (NI) **] marrow suppression. New antibiotics:
   Vanco, mycofungin, aztreonam, and flagyl
   Fluid balance negative with CVVH.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated, intubated, ventilated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-24**] 08:05 AM
   Gancyclovir - [**2137-6-24**] 10:45 AM
   Meropenem - [**2137-6-24**] 12:06 PM
   Metronidazole - [**2137-6-25**] 08:13 AM
   Vancomycin - [**2137-6-25**] 08:15 AM
   Aztreonam - [**2137-6-25**] 09:07 AM
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   folic acid, protonix, allopurinol, insulin, vancomycin, mycofungin,
   decadron, aztreonam, flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-25**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 96 (83 - 111) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (8 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 6 (4 - 14)mmHg
   Total In:
                                                                  2,945 mL
                                                                  1,277 mL
   PO:
   TF:
                                                                     42 mL
   IVF:
                                                                  2,217 mL
                                                                  1,187 mL
   Blood products:
                                                                    530 mL
   Total out:
                                                                  4,718 mL
                                                                  2,132 mL
   Urine:
                                                                      7 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,773 mL
                                                                   -855 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 772 (596 - 885) mL
   PS : 5 cmH2O
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 88
   PIP: 14 cmH2O
   SpO2: 95%
   ABG: 7.43/33/114/20/0
   Ve: 8 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Sclera edema, Icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral chest, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Minimal bowel sounds
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   20 K/uL
   87 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.3 mEq/L
   28 mg/dL
   99 mEq/L
   130 mEq/L
   25.3 %
   0.5 K/uL
        [image002.jpg]
                             [**2137-6-23**]  09:42 PM
                             [**2137-6-24**]  06:00 AM
                             [**2137-6-24**]  06:03 AM
                             [**2137-6-24**]  11:32 AM
                             [**2137-6-24**]  12:27 PM
                             [**2137-6-24**]  06:06 PM
                             [**2137-6-24**]  06:15 PM
                             [**2137-6-24**]  09:34 PM
                             [**2137-6-25**]  04:41 AM
                             [**2137-6-25**]  05:17 AM
   WBC
   0.7
   0.4
   0.5
   Hct
   27.2
   26.0
   25.0
   25.3
   Plt
   56
   34
   28
   31
   20
   Cr
   1.0
   1.1
   1.0
   1.0
   TCO2
   17
   18
   19
   21
   23
   Glucose
   107
   86
   80
   108
   87
   Other labs: PT / PTT / INR:20.4/73.4/1.9, ALT / AST:135/616, Alk Phos /
   T Bili:112/14.0, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:305 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.3 g/dL, LDH:2077 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   1) Respiratory failure
   2) Acute renal failure
   3) Pancytopenia
   4) Lymphoma
   5) Fever
   6) Liver failure
   Patient placed on SBT during rounds; after 5 mins on PSV 0/0, patient
   remained comfortable with RSBI approximately 30. Will continue on these
   settings for next hour. Patient has minimal cough with suctioning. He
   remains unresponsive. There are concerns about his ability to "protect
   his airway," although I would not consider that an absoulute
   contraindication to extubation in this setting.
   Patient has done well on CVVH. Electrolytes and metabolic acid
   improved.
   Afebrile in past 24 hours. Antibiotics adjusted as above.
   LFT's remain elevated.
   Patient remains unresponsive off sedation. Will check head CT given his
   low platelet count.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-06-26 07:28:00 Physician Resident Progress Note
Chief Complaint: PTLD-> Liver, kidney, respiratory failure
   24 Hour Events:
   Pt tolerated CPAP/PS 0/0 for most of the day, was placed on [**3-25**]
   overnight for rest.
   BP was stable in SBP 140s. BP increased to 160s systolic with turning
   of pt but it returned to baseline soon without intervention.
   Pt still not responsive. Gag and cough reflexes are still minimal but
   gag appears to be coming back [**Name8 (MD) **] RN.
   Tests done yesterday: CT head, Spleen, Kidney U/S.
   CVVH stopped yesterday, to receive HD thursday. Made about 15 cc of
   urine overnight.
   Hct dropped 25.3->22.9 this AM. Received 1 bag of plts yesterday but
   plt count this AM is 18. Continuing with small amounts of melena.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-24**] 08:05 AM
   Gancyclovir - [**2137-6-24**] 10:45 AM
   Meropenem - [**2137-6-24**] 12:06 PM
   Vancomycin - [**2137-6-25**] 04:28 PM
   Aztreonam - [**2137-6-25**] 11:14 PM
   Metronidazole - [**2137-6-26**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-26**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 92 (91 - 101) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 13 (13 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 6 (2 - 13)mmHg
   Total In:
                                                                  2,614 mL
                                                                    159 mL
   PO:
   TF:
   IVF:
                                                                  2,229 mL
                                                                    159 mL
   Blood products:
                                                                    205 mL
   Total out:
                                                                  2,377 mL
                                                                     15 mL
   Urine:
                                                                     20 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    237 mL
                                                                    144 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (468 - 772) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.40/36/80.[**Numeric Identifier 176**]/19/-1
   Ve: 8.7 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   18 K/uL
   7.7 g/dL
   101 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.8 mEq/L
   44 mg/dL
   101 mEq/L
   131 mEq/L
   22.9 %
   0.4 K/uL
        [image002.jpg]
                             [**2137-6-24**]  06:06 PM
                             [**2137-6-24**]  06:15 PM
                             [**2137-6-24**]  09:34 PM
                             [**2137-6-25**]  04:41 AM
                             [**2137-6-25**]  05:17 AM
                             [**2137-6-25**]  11:33 AM
                             [**2137-6-25**]  11:49 AM
                             [**2137-6-25**]  05:07 PM
                             [**2137-6-26**]  04:35 AM
                             [**2137-6-26**]  04:47 AM
   WBC
   0.4
   0.5
   0.4
   Hct
   25.0
   25.3
   22.9
   Plt
   31
   20
   38
   18
   Cr
   1.1
   1.0
   1.0
   1.2
   TCO2
   21
   23
   23
   24
   23
   Glucose
   80
   108
   87
   101
   Other labs: PT / PTT / INR:20.4/73.4/1.9, ALT / AST:125/578, Alk Phos /
   T Bili:112/12.0, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:305 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:[**2039**] IU/L, Ca++:7.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: [**2137-6-23**] 11 AM: U tox Pos for benzos
   Imaging: CT head [**2137-6-25**]
   Prelim: No acute intracranial process or interval change.
   .
   Renal U/S [**2137-6-25**]
   Final: FINDINGS: Both kidneys are normal without hydronephrosis,
   lesions, or masses.
   There are no obstructive renal calculi. The corticomedullary
   differentiation
   is well preserved. The right kidney measures 11.1 cm. The left kidney
   measures 10.9 cm. The urinary bladder is partially distended with the
   catheter.
   IMPRESSION: Normal renal son[**Name (NI) **]. [**Name2 (NI) **] evidence of hydronephrosis.
   .
   Spleen U/S [**2137-6-25**]
   FINDINGS: The spleen is enlarged measuring 15 cm compared to prior
   measurement of 12.7 cm (by CT abdomen on [**2137-6-10**]). There is an
   ill-defined focal hypoechoic lesion in
   the spleen measuring 1.2 x 1.4 x 1.7 cm without vascularity on color
   flow
   images and likely represents a benign entity. Small amount of free
   fluid is
   noted in the left and right lower quadrants.
   IMPRESSION: Interval increase in the size of the spleen now measuring
   15 cm compared to prior 12.7 cm. Free fluid noted in bilateral lower
   quadrants.
   .
   CXR [**2137-6-25**]
   FINDINGS: In comparison with the study of [**6-24**], there is still some
   8ncreased opacification at the right base medially as well as in the
   retrocardiac area.  Again, these areas could reflect consolidation,
   especially aspiration. Tubes remain in place.
   Microbiology: HCV, HBV, CMV viral load pending
   [**2137-6-24**] Stool- no virus isolated so far
   EBV, Herpes 6, BK viral load pending
   Assessment and Plan
   # Respiratory failure: Multifactorial etiology for tachypnea and
   increased work of breathing. Patient has anasarca and will likely
   continue to develop worsening renal function likely due to dense ATN.
   He has a significant lactic acidosis which is also driving his RR in
   order to compensate for his metabolic acidosis. He also was diagnosed
   with pneumonia earlier in his hospital course although his BAL has not
   grown any organisms. He also has likely component of PTLD of the lung
   and possibly GVHD now suspected. Per nurse, bloody secretions decreased
   per nurse.
   - CPAP/PS settings changed to 0/0 during rounds this AM. Pt tolerating
   it well for now. Will monitor closely for any signs of distress
   (tachycardia, HTN, desats). Re-check ABG
   - Pt has been off of versed and fentanyl drips (was given one bolus of
   fentanyl last night). Pt still not waking up- will check U tox and CT
   of head.
   - Plan for extubation soon.
   # Metabolic acidosis, likely multifactorial due to increased metabolic
   rate and liver dysfxn leading to decreased lactate clearance; With
   diarrhea, pt may also develop non anion gap acidosis, which may make
   his overall acidosis worse.  Pt now also has resp alkalosis due to high
   Vt that pt draws; uncertain whether this is due to anxiety or
   stimulation of receptors in lungs or vasculature
   - Met acidosis much improved with CVVH
   - treat underlying cause of liver dysfunction (PTLD)
   # Frequent, loose stools; chronic. [**Month (only) 51**] be due to GVHD. Now with melena
   since re-starting tube feeds yesterday.
   - Will d/w Heme/onc whether to try another bland of TF vs TPN. TPN may
   be more practical if pt is extubated.
    # Pancytopenia, with likely intravascular hemolysis and low grade
   bleeding (bleeding gums, pink residuals, guaiac pos stools, melena).
   Also probably side effect of chemotherapy.
   - transfuse if plt<30, hct<21.
   - haptoglobin level is low yield given liver failure
   - Check CBC/Plts/Coags Q 6 hrs with CVVH labs, space out additional DIC
   labs
can check daily now to reduce over phlebotomy and given
   repetitive normal fibrinogen levels
   # Acute renal failure, baseline 1.1, Cr=1 today, much improved with
   CVVH. Anuric. Confirmed dense ATN based on urine sediment showing muddy
   brown casts; also adding to the renal failure is tumor lysis (high uric
   acid, high LDH, low Ca, high K)
   - D/C CVVH and switch over to intermittent HD starting tomorrow per
   renal; Ins/Outs goal = even as pt
s CVP is low-nl and pt appears
   euvolemic on clinical exam.
   - Appreciate Renal recs.
   - F/u BK viral load levels pending from [**6-6**] and [**2137-6-22**].
   - Renally dose meds
   - Uric acid much improved, will keep current allopurinol dosage
   - Will need to carefully monitor fluid status given the number of
   antibiotics being given to patient with IVF. Will d/w Heme/Onc
   # Liver failure likely due to PTLD (biospy confirms involvement with
   lymphoma c/w PTLD)
   - Liver enzymes continue to increase, with signs that chemotherapy is
   not improving liver function; treat supportively, treat underlying
   cause
   - hepatically dose meds and avoid toxins
   - transfuse FFP if INR>1.3-1.6 and + active bleeding
   - will continue  transfuse Plts if plt<30-40
   - treat underlying PTLD
   - f/u CT abdomen, pelvis once done
   # Sinus tachycardia, with intermittent episodes of hypertension.
   - still unknown source of infection ?,  will con
t  Vanco 500 mg daily
   with vanco level checks daily; Also continue Micafungin, Flagyl, and
   Aztreonam.
   - TTE show no pericardial effusion
   - pt has high coagulability due to presence of malignancy- DVTs ruled
   out by LENI, VQ scan [**Location (un) 988**]-mod probability. Will hold off on CTA
   given renal failure
   - anemia likely contributing, will transfuse pRBCs as necessary.
   - no signs of ischemia on ECG, no chest pain prior to intubation
   # Lymphoproliferative dysplasia
   - continue sirolimus 2mg PO daily
   - Decadron 2mg [**Hospital1 7**]
   - appreciate BMT recs
   # Blood sugar in the setting of Dexamethasone administration; labile
   FS.
   - Q6 hr FS, on ISS.
   # FEN: will d/w Heme/onc regarding re-start of tube feeds vs TPN
   - electrolytes: Ca persistantly low. Likely citrate in blood products
   is binding Ca. Pt on Ca repletion sliding scale. Monitor Q8 hours for
   now .
   # Access:
   - Hickman line placed [**6-6**]
   - arterial line placed [**6-16**]
   - HD line placed [**6-16**]
   # PPx: intermittent pneumoboots given low plt (per heme/onc) ; continue
   PPI
   # Code:  FULL
   # Dispo:  ICU; will discuss with heme/onc regarding goals of therapy.
    # Comm:  [**Name (NI) **] [**Telephone/Fax (1) 977**], ex-wife and health care proxy
   ICU [**Name2 (NI) 81**]
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-26 09:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, acute renal failure, liver
   failure, lymphoma, pancytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On PSV 0/0 through the day yesterday without respiratory difficulty.
   Switched to PSV 5/5 through the night. Patient remains somnolent, but
   gag reflex appears to be improving. Head CT negative for an acute
   intracranial process. RSBI 47. ABG excellent this morning with VE<9
   L/min.
   Ultrasound of spleen - size of spleen felt to be bigger than it was on
   CT on [**2137-6-10**].
   CVVH stopped yesterday. Patient to resume hemodialysis later this week.
   Continues to have melena. Hct slowly dropping.
   Transfused with platelets yesterday.
   This AM, patient opening eyes to noxious stimuli.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-24**] 08:05 AM
   Gancyclovir - [**2137-6-24**] 10:45 AM
   Meropenem - [**2137-6-24**] 12:06 PM
   Vancomycin - [**2137-6-25**] 04:28 PM
   Aztreonam - [**2137-6-26**] 07:30 AM
   Metronidazole - [**2137-6-26**] 08:26 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Protonix, cerolimus, allopurinol, vancomycin, flagyl, aztreonam,
   mycofungin, folic acid, benadryl, calcium gluconate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-26**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.9
C (98.4
   HR: 92 (91 - 101) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 13 (12 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (2 - 13)mmHg
   Total In:
                                                                  2,614 mL
                                                                    358 mL
   PO:
   TF:
   IVF:
                                                                  2,229 mL
                                                                    358 mL
   Blood products:
                                                                    205 mL
   Total out:
                                                                  2,377 mL
                                                                     15 mL
   Urine:
                                                                     20 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    237 mL
                                                                    343 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 587 (468 - 587) mL
   PS : 5 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.40/36/80.[**Numeric Identifier 176**]/19/-1
   Ve: 8.5 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, Pupils dilated, No(t) Conjunctiva pale,
   No(t) Sclera edema, pupils sluggish; scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral chest, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   18 K/uL
   101 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.8 mEq/L
   44 mg/dL
   101 mEq/L
   131 mEq/L
   22.9 %
   0.4 K/uL
        [image002.jpg]
                             [**2137-6-24**]  06:06 PM
                             [**2137-6-24**]  06:15 PM
                             [**2137-6-24**]  09:34 PM
                             [**2137-6-25**]  04:41 AM
                             [**2137-6-25**]  05:17 AM
                             [**2137-6-25**]  11:33 AM
                             [**2137-6-25**]  11:49 AM
                             [**2137-6-25**]  05:07 PM
                             [**2137-6-26**]  04:35 AM
                             [**2137-6-26**]  04:47 AM
   WBC
   0.4
   0.5
   0.4
   Hct
   25.0
   25.3
   22.9
   Plt
   31
   20
   38
   18
   Cr
   1.1
   1.0
   1.0
   1.2
   TCO2
   21
   23
   23
   24
   23
   Glucose
   80
   108
   87
   101
   Other labs: PT / PTT / INR:20.4/73.4/1.9, ALT / AST:125/578, Alk Phos /
   T Bili:112/12.0, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:305 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:[**2039**] IU/L, Ca++:7.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   1) Respiratory failure
   2) Acute renal failure
   3) Pancytopenia
   4) GI Bleed
   5) Lymphoma
   6) Acidosis
   Patient did well throughout the day yesterday with no ventilatory
   support. Will recheck SBT briefly this AM and then extubate if he is
   doing well. CXR suggest layering of pleural effusions. With CVVH off,
   will try to minimize fluids given today. Patient still without strong
   gap. Will apply scopolamine patch to reduce upper airway secretions.
   Mild metabolic acidosis persists, with small anion gap likely due to
   renal failure; lactate down to 2. Electrolytes acceptable.
   Intermittent melena. Hct down slightly. Monitor Hct more closely today
   to assess need for transfusion. Renal to be alerted re: possible need
   for dialysis if he is extubated and has problems with the transfusion.
   Severe neutropenia persists. Receiving platelets per protocol.
   Enlargement of spleen concerning re: response (or lack thereof) to
   therapy for lyphoma.
   ICU Care
   Nutrition: NPO.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2137-06-27 07:38:00 Physician Resident Progress Note
Chief Complaint: 59M with mm, s/p stem cell transplant, complicated by
   PTLD, and respiratory failure due to metabolic acidosis and fluid
   overload.  Rec
d experimental doses of valcade, retuximab earlier in
   week.
   24 Hour Events:
   Pt was transfused 1 u pRBC and 1 bag of plts yesterday
   Pt still very sedated with minimal response despite discontinuation of
   Fentanyl (3 days ago) and Versed (5 days ago). Continuing to have
   frequent melenas, with very low plts. Discussion between pt's
   oncologist, Dr. [**First Name (STitle) **], critical care team, and [**Hospital **] health care proxy
   took place last night. In light of pt's aggressive lymphoma and little
   likelihood of meaningful recovery, in addition to multi-organ system
   failure, decision was made to extubate patient in the morning of [**2137-6-27**]
   and make patient comfortable. Pt's family and [**Name (NI) **], pt's HCP are to
   assemble at bedside at 11 AM. Pt remains on PS 5/5 for now; no more lab
   tests, cancelled HD originally scheduled to re-start this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Caspofungin - [**2137-6-24**] 08:05 AM
   Gancyclovir - [**2137-6-24**] 10:45 AM
   Meropenem - [**2137-6-24**] 12:06 PM
   Vancomycin - [**2137-6-25**] 04:28 PM
   Micafungin - [**2137-6-26**] 11:14 PM
   Metronidazole - [**2137-6-27**] 12:13 AM
   Aztreonam - [**2137-6-27**] 12:40 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-27**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 98 (86 - 101) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 27 (0 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 8 (6 - 8)mmHg
   Total In:
                                                                  1,141 mL
                                                                    237 mL
   PO:
   TF:
   IVF:
                                                                    563 mL
                                                                    187 mL
   Blood products:
                                                                    578 mL
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,126 mL
                                                                    237 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (453 - 587) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 10.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27 K/uL
   7.7 g/dL
   101 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.8 mEq/L
   44 mg/dL
   101 mEq/L
   131 mEq/L
   20.9 %
   0.4 K/uL
        [image002.jpg]
                             [**2137-6-25**]  04:41 AM
                             [**2137-6-25**]  05:17 AM
                             [**2137-6-25**]  11:33 AM
                             [**2137-6-25**]  11:49 AM
                             [**2137-6-25**]  05:07 PM
                             [**2137-6-26**]  04:35 AM
                             [**2137-6-26**]  04:47 AM
                             [**2137-6-26**]  10:06 AM
                             [**2137-6-26**]  03:35 PM
                             [**2137-6-26**]  05:05 PM
   WBC
   0.5
   0.4
   Hct
   25.3
   22.9
   21.7
   20.9
   Plt
   20
   38
   18
   27
   Cr
   1.0
   1.2
   TCO2
   23
   23
   24
   23
   Glucose
   87
   101
   Other labs: PT / PTT / INR:23.2/94.7/2.2, ALT / AST:125/578, Alk Phos /
   T Bili:112/12.0, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:210 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:1895 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2137-06-27 09:02:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   59 yo man with MM sp cord allo BMT [**2137-4-8**] here with PTLD (liver,
   lungs), transferred here for respiratory failure.
   24 Hour Events:
   -After discussion with Dr. [**First Name (STitle) **] and patient's HCP, plan was to
   extubate today at 11AM with goal to be comfort measures only.
   -remained on pressure support [**3-25**] overnight
   -continues to have profuse melena.
   12:15
 patient extubated, comfortable. Family is with him.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gancyclovir - [**2137-6-24**] 10:45 AM
   Meropenem - [**2137-6-24**] 12:06 PM
   Vancomycin - [**2137-6-25**] 04:28 PM
   Micafungin - [**2137-6-26**] 11:14 PM
   Metronidazole - [**2137-6-27**] 12:13 AM
   Aztreonam - [**2137-6-27**] 12:40 AM
   Infusions:
   Other ICU medications:
   Other medications:
   pantoprasole, sirolimus, allopurinol, insulin SQ, dexamethasone 2 q12,
   neupogen, folic acid, scopolamine patch
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-6-27**] 08:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 99 (86 - 101) bpm
   BP: 141/53(72) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (0 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 8 (6 - 8)mmHg
   Total In:
                                                                  1,141 mL
                                                                    244 mL
   PO:
   TF:
   IVF:
                                                                    563 mL
                                                                    194 mL
   Blood products:
                                                                    578 mL
   Total out:
                                                                     15 mL
                                                                      0 mL
   Urine:
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,126 mL
                                                                    244 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 397 (397 - 548) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: CMO
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 11 L/min
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: Pupils dilated, reactive to light sluggishly
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   7.7 g/dL
   27 K/uL
   101 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.8 mEq/L
   44 mg/dL
   101 mEq/L
   131 mEq/L
   20.9 %
   0.4 K/uL
        [image002.jpg]
                             [**2137-6-25**]  04:41 AM
                             [**2137-6-25**]  05:17 AM
                             [**2137-6-25**]  11:33 AM
                             [**2137-6-25**]  11:49 AM
                             [**2137-6-25**]  05:07 PM
                             [**2137-6-26**]  04:35 AM
                             [**2137-6-26**]  04:47 AM
                             [**2137-6-26**]  10:06 AM
                             [**2137-6-26**]  03:35 PM
                             [**2137-6-26**]  05:05 PM
   WBC
   0.5
   0.4
   Hct
   25.3
   22.9
   21.7
   20.9
   Plt
   20
   38
   18
   27
   Cr
   1.0
   1.2
   TCO2
   23
   23
   24
   23
   Glucose
   87
   101
   Other labs: PT / PTT / INR:23.2/94.7/2.2, ALT / AST:125/578, Alk Phos /
   T Bili:112/12.0, Differential-Neuts:76.0 %, Band:0.0 %, Lymph:15.0 %,
   Mono:1.0 %, Eos:0.0 %, D-dimer:5007 ng/mL, Fibrinogen:210 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:1895 IU/L, Ca++:7.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   1) Respiratory failure
   2) Acute renal failure
   3) Pancytopenia
   4) GI Bleed
   5) Lymphoma
   6) Acidosis
   Given questionable response of PTLD to numerous regimens, and poor
   prognosis, there is consensus between the patient
s oncologist, health
   care proxy, and ICU team to transition goals of care to comfort
   measures only.  We will discontinue all medications after medications,
   and titrate morphine drip as needed for comfort.  Arterial line will be
   removed.
   12:20
 patient died with family in attendance.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2137-6-16**] 02:36 PM
   Arterial Line - [**2137-6-16**] 04:00 PM
   Dialysis Catheter - [**2137-6-16**] 06:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition : ICU
   Total time spent:  20
   [**First Name11 (Name Pattern1) **] [**Last Name (NamePattern4) 980**], MD